2124-09-11 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2124-9-10**] 08:27 AM
 EKG - At [**2124-9-10**] 03:09 PM
   [**9-10**]:
   - Code Status: intubated, but DNR ; can use pressors but no
   epi/atropine or compressions in code situation
   - has PICC line for access ; BMT & wife talked and want to hold off on
   central line another day until dr. [**Last Name (STitle) 21**] back on service (for BMT)
   - bolusing sedation rather than drip b/c of limited access
   - amio drip for afib started in AM--> converted to sinus rhythm in 50s
   (had rate as high as 140s while in Afib)
   - will need to re-write for amio gtt 0.5mg/hr If Needed after the 18hrs
   is up of the initial loading dose
   - gave 2L IVFs
   - increasing phenylephrine requirement
   - CT Head/chest/abd/pelvis - ?progression of subdural
   hematomas/?pneumonia
   - limit antipsychotics but monitor QTc if have to use
   - f/u ID recs
   - trend neuro exams b/c of subdural hematomas
   - urine output dropping off around midnight --> gave 500ml LR bolus
   - CT Head -- stable subdural hematomas
   - CT chest- Bilat apices pneumonia; bilat bases pneumonia vs
   atelectasis; bilat pleural effusions L>R (RIght side is new)
   - CT abd/pelvis - abdom LAD improved; moderate abd ascites; large amt
   pelvic fluid ; diffuse anasarca
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2124-9-10**] 08:11 PM
   Ambisome - [**2124-9-10**] 10:49 PM
   Meropenem - [**2124-9-11**] 02:36 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-10**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-11**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.3
C (95.5
   HR: 53 (50 - 138) bpm
   BP: 110/60(78) {77/42(54) - 130/74(95)} mmHg
   RR: 12 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  4,915 mL
                                                                  1,153 mL
   PO:
             TF:
   IVF:
                                                                  4,915 mL
                                                                  1,153 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    220 mL
   Urine:
                                                                    680 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,235 mL
                                                                    933 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.45/35/117/24/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 234
   Physical Examination
   GEN: does not respond to verbal stimuli but responded to pain stimuli,
   moving around in bed, moaning, has soft restraints
   HEENT: MMM, OP clear, pupils round equal and reactive to light, scleral
   edema
   Neck: unable to assess JVP due to anatomy
   Lungs: Diffuse coarse breathsounds anterior and posterior exam,
   bibasilar crackles
   Heart: bradycardic rate; normal S1, S2 no murmurs appreciated
   Abdomen: hypoactive bowel sounds, soft, non-distended
   Ext: warm, 3+ pitting edema in b/l lower extremities, 3+ pitting edema
   upper extremities; total body anasarca
   Neuro: limited by mental status, AAOx0, moving all 4 extremities
   spontaneously
   Labs / Radiology
   20 K/uL
   7.2 g/dL
   258 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   45 mg/dL
   108 mEq/L
   138 mEq/L
   20.9 %
   2.0 K/uL
        [image002.jpg]
                            [**2124-9-6**]  03:04 AM
                            [**2124-9-6**]  05:30 AM
                            [**2124-9-10**]  05:33 AM
                            [**2124-9-10**]  08:49 AM
                            [**2124-9-10**]  06:15 PM
                            [**2124-9-11**]  04:50 AM
                            [**2124-9-11**]  05:05 AM
   WBC
   1.1
   2.0
   2.0
   Hct
   23.4
   24.7
   20.9
   Plt
   57
   41
   20
   Cr
   0.4
   0.3
   0.4
   0.5
   TCO2
   26
   26
   25
   Glucose
   1045
   110
   170
   258
   Other labs: PT / PTT / INR:11.9/28.4/1.0, ALT / AST:105/85, Alk Phos /
   T Bili:466/5.4, Differential-Neuts:56.0 %, Band:1.0 %, Lymph:32.0 %,
   Mono:11.0 %, Eos:0.0 %, Fibrinogen:473 mg/dL, Lactic Acid:2.5 mmol/L,
   LDH:491 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and large cell transformation, s/p allo
   SCT in [**2-24**], now with AMS and hypothermia in the setting of  BK
   viremia, now with new bilateral apical infiltrates on CXR concerning
   for PNA.
   .
   # Worsening AMS/Hypothermia: Most likey infectious, possibly of a new
   source. Concern for fungemia in his setting with so many risk factors
   and an elevated beta glucan. Also, a worsening BK viremia could be a
   possibility.  CSF studies all negative including BK/[**Male First Name (un) 561**] and adenovirus.
   Patient received two doses of cidofovir so far, first on [**8-25**] and
   [**9-1**], (was pretreated in ICU with probenecid and IVF).  EEG negative
   for seizures.  Other possible cause could be hepatic encephalopathy.
   - Appreciate ID and neuro input-> ID recs to hold on further BK tx
   - TSH/fT4 ? central hypothyrodism vs sick euthyroid, appreciate
   endocrinology recs
   - Fungal studies sent and pending
   - Continue NG tube for oral meds in setting of AMS
   - Restraints for now in setting of agitation
   - Continue broad coverage with meropenem and ambisome
   - random cortisol is 8.6, will perform [**Last Name (un) 402**] stim, will switch
   methylprednisone to dexamethasone (double the equivalent dose);
   unlikely to be an meaningful test, but will follow up
   - follow up BK virus load
   - follow up BCX including mycolytic cultures
   - continue haldol prn, D/C zyprexa for now as it will more diagnostic
   to use one at a time and see its effect and avoid benzos
   - consider diagnostic paracentesis when patient is less agitated
   - need to discuss goals of care and clarify code status w/ patient
   wife
   .- plan to d/c fem line and wean off neo 1.5
 0.5 now
   # PNA- new bilateral apical infiltrates could be [**12-20**] aspiration PNA
   (although RUL infiltrates are abormal for aspiration PNA could be
   possible in this patient due to positioning during code and  recumbent
   position). Daptomysin would have poor lung penetration but patient is
   also on meropenem.
   - ID recs to d/c daptomycin and add linezolid IV 600mg q12h
   .
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate Dr. [**Last Name (STitle) 21**]
s recs
   - follow-up any pending heme/onc recs
   .
   # Episodes of hypoglycemia: TPN with insulin is discontinued.  Likely
   secondary to ongoing infections.
   - appreciate endocrine recs
   .
   # Diarrhea: Most likely from GVHD.  Now resolved.  Bilious looking out
   put from NGT.
   - Check I's and O's
   - Replete lytes
   - follow up official result of KUB
   .
   # Anemia/Thrombocytopenia: Most likely due to
   immunosuppression/infection/GVHD. Will transfuse for Hct <21.
   -One unit PRBCs given today
   -Guiaic stools
   -Active type and screen
   .
   # Hypertension: Continue metoprolol
   .
   Nutrition:
   TPN without Lipids - [**2124-9-5**] 09:17 PM 91.[**Telephone/Fax (3) 553**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-5**] 09:17 PM
   Prophylaxis:
   DVT: : Pneumoboots,
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: : DNR, can intubate if recovery is expected
   Disposition:

2124-09-11 11:28:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Somewhat more awake this AM, now on trial of IPS mode.
   A-Fib yesterday, converted to NSR while on amioderone.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, ETT
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2124-9-10**] 08:11 PM
   Ambisome - [**2124-9-10**] 10:49 PM
   Meropenem - [**2124-9-11**] 08:25 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-11**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-11**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 65 (49 - 138) bpm
   BP: 118/72(89) {77/42(54) - 128/75(96)} mmHg
   RR: 18 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 125 kg
             Total In:
                                                                  4,915 mL
                                                                  1,329 mL
   PO:
             TF:
   IVF:
                                                                  4,915 mL
                                                                  1,329 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    295 mL
   Urine:
                                                                    680 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,235 mL
                                                                  1,034 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 580 (580 - 580) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.45/35/117/24/1
   Ve: 7.9 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.2 g/dL
   20 K/uL
   258 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   45 mg/dL
   108 mEq/L
   138 mEq/L
   20.9 %
   2.0 K/uL
        [image002.jpg]
                            [**2124-9-6**]  03:04 AM
                            [**2124-9-6**]  05:30 AM
                            [**2124-9-10**]  05:33 AM
                            [**2124-9-10**]  08:49 AM
                            [**2124-9-10**]  06:15 PM
                            [**2124-9-11**]  04:50 AM
                            [**2124-9-11**]  05:05 AM
   WBC
   1.1
   2.0
   2.0
   Hct
   23.4
   24.7
   20.9
   Plt
   57
   41
   20
   Cr
   0.4
   0.3
   0.4
   0.5
   TCO2
   26
   26
   25
   Glucose
   1045
   110
   170
   258
   Other labs: PT / PTT / INR:11.9/28.4/1.0, ALT / AST:105/85, Alk Phos /
   T Bili:466/5.4, Differential-Neuts:56.0 %, Band:1.0 %, Lymph:32.0 %,
   Mono:11.0 %, Eos:0.0 %, Fibrinogen:473 mg/dL, Lactic Acid:2.5 mmol/L,
   LDH:491 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   57 yom CLL (large cell transformation) --> s/p allo SCT in [**2-24**], now
   returns to MICU following PEA arrest.
   RESPIRATORY FAILURE -- intubated in context of PEA arrest.  Radigraphic
   evidence for new RUL and LUL (post) infiltrate, suspect aspiration.
   Plan continue mechanical ventilation.  Extubation attempt may be
   limited by altered mental status.
   PEA ARREST -- unclear precipitant.  Concerns include aspiration with
   hypoxemia, acidosis, hypovolemia.  Improved.  Doubt pulmonary embolism.
   HYPOTENSION -- attributed in part to infection and to pharmacological
   agents.  Improved.  Wean vasopressors.
   A-FIB -- now back in NSR, off amioderone.
   ALTERED MENTAL STATUS -- unclear etiology.  Attributed to medications,
   viremia, possible hepatic encephalopathy.  Likely contribution of
   SDH.   Limit psychotropic meds if possible.   Unclear whether SDH
   drainage viable option (in context of severe thrombocytopenia).
   Monitor.
   CLL --> s/p BMTx, c/b GVHD:   Continue immunosuppressant and
   prophylactic regimens.  Continue cidofovir.
   HYPOGLYCEMIA -- episodic.  Attributed to insulin in TPN, now
   discontinued.  Possible related to ongoing infections.
   FLUIDS -- replete.  Monitor I/O.
   ANEMIA -- attributed to immunosuppression.
   THROMBOCYTOPENIA -- attributed to immunosuppression/infection/GVHD.
   Will transfuse for Hct <21.
   HTN -- hold antiHTN meds while on vasopressor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Arterial Line - [**2124-9-10**] 08:27 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Discussed medical progress with wife
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Discussion with wife.  Updated medical conditiona and answered all
   questions.  Based on events over past 24 hours, wife states that if
   central line placement is medically indicated, she would approve
   placement, and clearly states that in the event of cardiac
   decompensation, CPR would be appropriate (as patient responded to CPR
   last PM).  At this time, will sign new ICU consent form, and will
   reverse DNR status.  Patient is Full Code.  Plan daily communications
   with wife to monitor progress and answer questions.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2124-9-11**] 19:40 ------

2124-09-12 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE
(fem) STOP [**2124-9-11**] 07:00 PM
   - Goals of care discussed with Dr. [**Last Name (STitle) 21**] as well as family.  The
   patient's wife signed a new ICU consent which allows for CVL
   placement.  Code status switched to FULL CODE
   - on PS 5/5 as of [**9-11**]
   -Nutrition - TPN; family to discuss access with Dr. [**Last Name (STitle) 21**]
   [**Name (STitle) 11026**] weaned off and has been d/c'd since ~8 pm.  MAP holding in low 60s
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2124-9-10**] 08:11 PM
   Ambisome - [**2124-9-11**] 09:45 PM
   Meropenem - [**2124-9-12**] 02:14 AM
   Linezolid - [**2124-9-12**] 04:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-11**] 07:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-12**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96
   HR: 102 (55 - 102) bpm
   BP: 97/58(69) {82/48(56) - 111/82(96)} mmHg
   RR: 28 (9 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 135 kg (admission): 125 kg
             Total In:
                                                                  3,136 mL
                                                                    630 mL
   PO:
             TF:
   IVF:
                                                                  3,136 mL
                                                                    631 mL
   Blood products:
   Total out:
                                                                    420 mL
                                                                    190 mL
   Urine:
                                                                    420 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,716 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 556 (384 - 580) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.34/47/119/26/0
   Ve: 8 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance:  edematous, jaundiced male appearing older than
   stated age, sedated, intubated, not responsive to voice commands or
   painful stimuli, moving all four extremities randomly, head movements
   jerky, leaning towards the right side since over night
    Eyes / Conjunctiva: marked scleral edema (chemiosis), scleral icterus,
   pupils equal round and reactive to light
   Head, Ears, Nose, Throat:  NGT for PO meds, oropharynx w/ clear
   secretions
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: tachycardic, normal S1, S2 no murmurs appreciated
   Lungs: Diffuse coarse breathsounds anterior and posterior exam,
   bibasilar crackles
   Abdomen: hypoactive bowel sounds, soft, non-distended, tenderness
   unable to assess
   Ext: warm, 3+ pitting edema in b/l lower extremities, 3+ pitting edema
   upper extremities; total body anasarca
   Neuro: limited by mental status, AAOx0, moving all 4 extremities
   spontaneously
   Labs / Radiology
   10 K/uL
   6.9 g/dL
   111 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   51 mg/dL
   113 mEq/L
   143 mEq/L
   20.6 %
   1.0 K/uL
        [image002.jpg]
                            [**2124-9-6**]  03:04 AM
                            [**2124-9-6**]  05:30 AM
                            [**2124-9-10**]  05:33 AM
                            [**2124-9-10**]  08:49 AM
                            [**2124-9-10**]  06:15 PM
                            [**2124-9-11**]  04:50 AM
                            [**2124-9-11**]  05:05 AM
                            [**2124-9-11**]  12:16 PM
                            [**2124-9-12**]  03:50 AM
   WBC
   1.1
   2.0
   2.0
   1.0
   Hct
   23.4
   24.7
   20.9
   20.6
   Plt
   57
   41
   20
   10
   Cr
   0.4
   0.3
   0.4
   0.5
   0.5
   TCO2
   26
   26
   25
   26
   Glucose
   1045
   110
   170
   258
   111
   Other labs: PT / PTT / INR:12.1/34.4/1.0, ALT / AST:101/87, Alk Phos /
   T Bili:527/6.2, Differential-Neuts:58.0 %, Band:0.0 %, Lymph:38.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:473 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:1.7 g/dL, LDH:384 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   .
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal > 21, plt goal > 20. Linezolid was initiated yesterday and
   although thrombocytopenia is an adverse effect, this would not be
   expected to take place sooner than 1-2wks.
   - check DIC labs: fibrinogen, CBC, PT, INR, PTT, FDP, Haptoglobin
   - xfuse 1u PRBC today as HCT < 21 and check post-xfusion HCT
   - xfuse 3u platelets as plt 10 and pt bleeding from mouth, scrotum,
   urine
   - check post xfusion plt count
   - will need CVL placement after plt stabilization
   - hold off on NGT for PO meds as pt bleeding
   -Guiaic stools
   -Active type and screen
   # Worsening AMS/Hypothermia: Could be infectious, possibly of a new
   source- given aspiration pneumonia and high grade BK viremia . Concern
   for fungemia in his setting with so many risk factors and an elevated
   beta glucan. CSF studies all negative including BK/[**Male First Name (un) 561**] and adenovirus.
   Patient received two doses of cidofovir so far, first on [**8-25**] and
   [**9-1**], (was pretreated in ICU with probenecid and IVF).  EEG negative
   for seizures.  Hepatic encephalopathy less likely given EEG pattern and
   waxing and [**Doctor Last Name 533**] mental status not correlating with LFTs prior to
   arrival.
   - Restraints for now in setting of agitation
   - Continue broad coverage with meropenem and ambisome- change ambisome
   to 400mg IV q24h
   - continue linezolid 600mg IV q24h for pna
   - follow up BK virus load and Bcx
   - continue haldol prn, D/C zyprexa for now as it will more diagnostic
   to use one at a time and see its effect and avoid benzos
   - consider diagnostic paracentesis when patient is less agitated
   - goals of care discussed w/ wife- > now FULL CODE (if pt acutely
   worsens would recommend re-discussing goals)
   .- neo has been weaned off
   - amio held as pt in sinus
   - continue neutropenic precautions
   # PNA- bilateral apical infiltrates could be [**12-20**] aspiration PNA
   (although RUL infiltrates are abormal for aspiration PNA could be
   possible in this patient due to positioning during code and  recumbent
   position). Daptomysin would have poor lung penetration but patient is
   also on meropenem.
   - continue linezolid IV 600mg q12h as per ID recs
   - monitor plts
   .
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate Dr. [**Last Name (STitle) 21**]
s recs
   - follow-up any pending heme/onc recs
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM (L-brachial)
   Arterial Line - [**2124-9-10**] 08:27 AM (d/c on [**9-11**])
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI (added back since was in TPN)
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Discussed medical progress with wife
   [**Name (NI) 36**] status: FULL CODE
   Disposition :ICU

2124-09-12 15:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Off vasopressors, with adequate BP.  Femoral a-line discontinued.
   More awake, somewhat more alert.  Moving head, arms.
   Recurrent hypothermia, now back on warming blanket.
   Clinical oozing of blood from mouth and gross hematuria this AM.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2124-9-10**] 08:11 PM
   Ambisome - [**2124-9-11**] 09:45 PM
   Linezolid - [**2124-9-12**] 04:02 AM
   Meropenem - [**2124-9-12**] 08:46 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-12**] 08:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss,
   hypothermia
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-12**] 03:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96
   HR: 108 (57 - 108) bpm
   BP: 98/55(80) {82/48(56) - 119/82(96)} mmHg
   RR: 23 (9 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 135 kg (admission): 125 kg
           Total In:
                                                                  3,136 mL
                                                                  1,558 mL
   PO:
           TF:
   IVF:
                                                                  3,136 mL
                                                                    888 mL
   Blood products:
   670 mL
   Total out:
                                                                    420 mL
                                                                    380 mL
   Urine:
                                                                    420 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,716 mL
                                                                  1,178 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (384 - 590) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 9.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful (head,
   arms), No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   6.9 g/dL
   10 K/uL
   111 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   51 mg/dL
   113 mEq/L
   143 mEq/L
   20.6 %
   1.0 K/uL
        [image002.jpg]
                            [**2124-9-6**]  03:04 AM
                            [**2124-9-6**]  05:30 AM
                            [**2124-9-10**]  05:33 AM
                            [**2124-9-10**]  08:49 AM
                            [**2124-9-10**]  06:15 PM
                            [**2124-9-11**]  04:50 AM
                            [**2124-9-11**]  05:05 AM
                            [**2124-9-11**]  12:16 PM
                            [**2124-9-12**]  03:50 AM
   WBC
   1.1
   2.0
   2.0
   1.0
   Hct
   23.4
   24.7
   20.9
   20.6
   Plt
   57
   41
   20
   10
   Cr
   0.4
   0.3
   0.4
   0.5
   0.5
   TCO2
   26
   26
   25
   26
   Glucose
   1045
   110
   170
   258
   111
   Other labs: PT / PTT / INR:11.6/31.9/1.0, ALT / AST:101/87, Alk Phos /
   T Bili:527/6.1, Differential-Neuts:58.0 %, Band:0.0 %, Lymph:38.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:444 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:1.7 g/dL, LDH:384 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   57 yom CLL (large cell transformation) --> s/p allo SCT in [**2-24**], now
   returns to MICU following PEA arrest.
   RESPIRATORY FAILURE -- intubated in context of PEA arrest.  Radigraphic
   evidence for new RUL and LUL (post) infiltrate, suspect aspiration.
   Plan continue mechanical ventilation.  Extubation attempt may be
   limited by altered mental status.
   PULMONARY INFILTRATES -- new since [**9-6**] and attributed to aspiration
   event.  Treat as aspiration pneumonia.
   PEA ARREST -- unclear precipitant.  Concerns include aspiration with
   hypoxemia, acidosis, hypovolemia.  Improved.  Doubt pulmonary embolism.
   HYPOTENSION -- attributed in part to infection and to pharmacological
   agents.  Improved.
   A-FIB -- now back in NSR, off amioderone.  Monitor HR.
   ALTERED MENTAL STATUS -- unclear etiology.  Attributed to medications,
   viremia, possible hepatic encephalopathy.  Likely contribution of
   SDH.   Limit psychotropic meds if possible.   Unclear whether SDH
   drainage viable option (in context of severe thrombocytopenia).
   Monitor.
   CLL --> s/p BMTx, c/b GVHD:   Continue immunosuppressant and
   prophylactic regimens.  Continue cidofovir.
   HYPOGLYCEMIA -- episodic.  Attributed to insulin in TPN, now
   discontinued.  Possible related to ongoing infections.
   FLUIDS -- replete.  Monitor I/O.
   ANEMIA -- attributed to immunosuppression.
   THROMBOCYTOPENIA -- attributed to immunosuppression/infection/GVHD.
   Will transfuse for Hct <21.
   HTN -- hold anti-HTN meds while on vasopressor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   20 Gauge - [**2124-9-12**] 01:13 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-13 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -DIC labs negative (fibrinogen 444)
   -changed thiamine and folate to IV
   -transfused of 3 units platelets -> platelets 107 post-transfusion
   -gave 25g albumin
   -ID recs: suggest considering repeat mini-BAL, repeat LP, repeat viral
   studies
   -sent EBV, CMV
   -mental status still poor off sedation (not responsive to sternal rub)
   -urine lytes: FeUrea 2.99, FeNa 0.51
   -ordered NGT
   -increased ambisome to 400 mg Q24H
   -ordered head CT --> wet read, subdural stable in appearance
   -8 p.m. CBC with stable platelets, Hct 22.8 from 20.6 after 2 units
   PRBC
   -ordered another unit PRBC at 10:30 p.m.
   -checking DIC labs again in a.m.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2124-9-10**] 08:11 PM
   Ambisome - [**2124-9-12**] 10:10 PM
   Meropenem - [**2124-9-13**] 01:58 AM
   Linezolid - [**2124-9-13**] 03:56 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-12**] 12:40 PM
   Lorazepam (Ativan) - [**2124-9-12**] 06:10 PM
   Pantoprazole (Protonix) - [**2124-9-12**] 07:26 PM
   Fentanyl - [**2124-9-13**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-13**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 101 (95 - 113) bpm
   BP: 92/78(81) {85/51(61) - 119/78(83)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 135 kg (admission): 125 kg
           Total In:
                                                                  2,799 mL
                                                                    905 mL
   PO:
           TF:
   IVF:
                                                                  1,445 mL
                                                                    633 mL
   Blood products:
                                                                  1,355 mL
                                                                    272 mL
   Total out:
                                                                    655 mL
                                                                    400 mL
   Urine:
                                                                    655 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,144 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 535 (420 - 590) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance:  edematous, jaundiced male appearing older than
   stated age, sedated, intubated, not responsive to voice commands or
   painful stimuli, moving all four extremities randomly, head movements
   jerky, leaning towards the right side since over night
    Eyes / Conjunctiva: marked scleral edema (chemiosis), scleral icterus,
   pupils equal round and reactive to light
   Head, Ears, Nose, Throat:  NGT for PO meds, oropharynx w/ clear
   secretions
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: tachycardic, normal S1, S2 no murmurs appreciated
   Lungs: Diffuse coarse breathsounds anterior and posterior exam,
   bibasilar crackles
   Abdomen: hypoactive bowel sounds, soft, non-distended, tenderness
   unable to assess
   Ext: warm, 3+ pitting edema in b/l lower extremities, 3+ pitting edema
   upper extremities; total body anasarca
   Neuro: limited by mental status, AAOx0, moving all 4 extremities
   spontaneously
   Labs / Radiology
   91 K/uL
   8.5 g/dL
   107 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   56 mg/dL
   108 mEq/L
   141 mEq/L
   24.3 %
   2.0 K/uL
        [image002.jpg]
                            [**2124-9-10**]  08:49 AM
                            [**2124-9-10**]  06:15 PM
                            [**2124-9-11**]  04:50 AM
                            [**2124-9-11**]  05:05 AM
                            [**2124-9-11**]  12:16 PM
                            [**2124-9-12**]  03:50 AM
                            [**2124-9-12**]  03:48 PM
                            [**2124-9-12**]  08:00 PM
                            [**2124-9-13**]  03:42 AM
                            [**2124-9-13**]  05:18 AM
   WBC
   2.0
   1.0
   1.8
   2.0
   2.0
   Hct
   20.9
   20.6
   22.8
   24.4
   24.3
   Plt
   20
   10
   107
   112
   101
   91
   Cr
   0.5
   0.5
   0.8
   TCO2
   26
   26
   25
   26
   Glucose
   258
   111
   107
   Other labs: PT / PTT / INR:11.6/30.4/1.0, ALT / AST:96/90, Alk Phos / T
   Bili:533/8.0, Differential-Neuts:67.9 %, Band:0.0 %, Lymph:21.0 %,
   Mono:10.1 %, Eos:0.9 %, Fibrinogen:404 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:1.7 g/dL, LDH:392 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   .
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal > 21, plt goal > 20. Linezolid was initiated yesterday and
   although thrombocytopenia is an adverse effect, this would not be
   expected to take place sooner than 1-2wks.
   - check DIC labs: fibrinogen, CBC, PT, INR, PTT, FDP, Haptoglobin
   - xfuse 1u PRBC today as HCT < 21 and check post-xfusion HCT
   - xfuse 3u platelets as plt 10 and pt bleeding from mouth, scrotum,
   urine
   - check post xfusion plt count
   - will need CVL placement after plt stabilization
   - hold off on NGT for PO meds as pt bleeding
   -Guiaic stools
   -Active type and screen
   # Worsening AMS/Hypothermia: Could be infectious, possibly of a new
   source- given aspiration pneumonia and high grade BK viremia . Concern
   for fungemia in his setting with so many risk factors and an elevated
   beta glucan. CSF studies all negative including BK/[**Male First Name (un) 561**] and adenovirus.
   Patient received two doses of cidofovir so far, first on [**8-25**] and
   [**9-1**], (was pretreated in ICU with probenecid and IVF).  EEG negative
   for seizures.  Hepatic encephalopathy less likely given EEG pattern and
   waxing and [**Doctor Last Name 533**] mental status not correlating with LFTs prior to
   arrival.
   - Restraints for now in setting of agitation
   - Continue broad coverage with meropenem and ambisome- change ambisome
   to 400mg IV q24h
   - continue linezolid 600mg IV q24h for pna
   - follow up BK virus load and Bcx
   - continue haldol prn, D/C zyprexa for now as it will more diagnostic
   to use one at a time and see its effect and avoid benzos
   - consider diagnostic paracentesis when patient is less agitated
   - goals of care discussed w/ wife- > now FULL CODE (if pt acutely
   worsens would recommend re-discussing goals)
   .- neo has been weaned off
   - amio held as pt in sinus
   - continue neutropenic precautions
   # PNA- bilateral apical infiltrates could be [**12-20**] aspiration PNA
   (although RUL infiltrates are abormal for aspiration PNA could be
   possible in this patient due to positioning during code and  recumbent
   position). Daptomysin would have poor lung penetration but patient is
   also on meropenem.
   - continue linezolid IV 600mg q12h as per ID recs
   - monitor plts
   .
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate Dr. [**Last Name (STitle) 21**]
s recs
   - follow-up any pending heme/onc recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   20 Gauge - [**2124-9-12**] 01:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:

2124-09-13 11:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Tolerating SBT > 48 hrs,
   and remains on IPS= 5 cm H2O.
   Transient increased somnulance yesterday afternoon prompted repeat Head
   CT --> no increase in SDH.
   Somewhat more awake this AM, opens eyes, attempting to move arms,
   inconsistently to command.
   Less bleeding from oralpharynx and foley.
   Now with melena.
   Received 3 U PRBC transfusion yesterday, in addition to plts.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy, ETT
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2124-9-10**] 08:11 PM
   Ambisome - [**2124-9-12**] 10:10 PM
   Linezolid - [**2124-9-13**] 03:56 AM
   Meropenem - [**2124-9-13**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-12**] 12:40 PM
   Lorazepam (Ativan) - [**2124-9-12**] 06:10 PM
   Fentanyl - [**2124-9-13**] 06:00 AM
   Pantoprazole (Protonix) - [**2124-9-13**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, Melena
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis, Hematuria
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-13**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 99 (99 - 113) bpm
   BP: 83/66(69) {83/51(61) - 108/78(83)} mmHg
   RR: 24 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 125 kg
           Total In:
                                                                  2,799 mL
                                                                  1,202 mL
   PO:
           TF:
   IVF:
                                                                  1,445 mL
                                                                    930 mL
   Blood products:
                                                                  1,355 mL
                                                                    272 mL
   Total out:
                                                                    655 mL
                                                                    760 mL
   Urine:
                                                                    655 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,144 mL
                                                                    442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 623 (420 - 623) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful (eyes),
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   91 K/uL
   107 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   56 mg/dL
   108 mEq/L
   141 mEq/L
   24.3 %
   2.0 K/uL
        [image002.jpg]
                            [**2124-9-10**]  08:49 AM
                            [**2124-9-10**]  06:15 PM
                            [**2124-9-11**]  04:50 AM
                            [**2124-9-11**]  05:05 AM
                            [**2124-9-11**]  12:16 PM
                            [**2124-9-12**]  03:50 AM
                            [**2124-9-12**]  03:48 PM
                            [**2124-9-12**]  08:00 PM
                            [**2124-9-13**]  03:42 AM
                            [**2124-9-13**]  05:18 AM
   WBC
   2.0
   1.0
   1.8
   2.0
   2.0
   Hct
   20.9
   20.6
   22.8
   24.4
   24.3
   Plt
   20
   10
   107
   112
   101
   91
   Cr
   0.5
   0.5
   0.8
   TCO2
   26
   26
   25
   26
   Glucose
   258
   111
   107
   Other labs: PT / PTT / INR:11.6/30.4/1.0, ALT / AST:96/90, Alk Phos / T
   Bili:533/8.0, Differential-Neuts:67.9 %, Band:0.0 %, Lymph:21.0 %,
   Mono:10.1 %, Eos:0.9 %, Fibrinogen:404 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:1.7 g/dL, LDH:392 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   57 yom CLL (large cell transformation) --> s/p allo SCT in [**2-24**], now
   returns to MICU following PEA arrest.
   RESPIRATORY FAILURE -- intubated in context of PEA arrest.  Radigraphic
   evidence for new RUL and LUL (post) infiltrate, suspect aspiration.
   Plan continue mechanical ventilation.  Extubation attempt may be
   limited by altered mental status.
   PULMONARY INFILTRATES -- new since [**9-6**] and attributed to aspiration
   event.  Treat as aspiration pneumonia.
   PEA ARREST -- unclear precipitant.  Concerns include aspiration with
   hypoxemia, acidosis, hypovolemia.  Improved.  Doubt pulmonary embolism.
   HYPOTENSION -- attributed in part to infection and to pharmacological
   agents.  Improved.
   GI BLEED -- [**Last Name **] problem, may represent passing of oral bleeding, but at
   risk for PUD, GVHD, or other Gi pathology (at risk while NPO and on
   steroids).  Monitor.  If melena continues, and Hct continues to fall,
   consider GI consultation.
   A-FIB -- now back in NSR, off amioderone.  Monitor HR.
   ALTERED MENTAL STATUS -- unclear etiology.  Attributed to medications,
   viremia, possible hepatic encephalopathy.  Likely contribution of
   SDH.   Limit psychotropic meds if possible.   Unclear whether SDH
   drainage viable option (in context of severe thrombocytopenia).
   Monitor.
   CLL --> s/p BMTx, c/b GVHD:   Continue immunosuppressant and
   prophylactic regimens.  Continue cidofovir.
   HYPOGLYCEMIA -- episodic.  Attributed to insulin in TPN, now
   discontinued.  Possible related to ongoing infections.
   FLUIDS -- replete.  Monitor I/O.
   ANEMIA -- attributed to immunosuppression, and recent blood loss.
   Monitor Hct, transfuse <25.
   THROMBOCYTOPENIA -- attributed to immunosuppression/infection/GVHD.
   Will transfuse for plts <20.
   HTN -- hold anti-HTN meds while on vasopressor.
   NUTRITIONAL SUPPORT -- hope to resume TPN --> may require new central
   line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   20 Gauge - [**2124-9-12**] 01:13 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-14 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Benzodiazepine and  olanzapine were discontinued yesterday.
   Last night, the patient was noted to have an episode of melena.
   Hematocrit remained stable at 24.3.  The patient did not get a  CVL, as
   it was determined that he can get TPN through his double lumen PICC.
   The patient got PPN yesterday.
   The patient did not require any Fentanyl O/N.
   This morning the patient was noted to have worsening hematuria with
   reduced urine output through his catheter.
   The patient continues to be stably more responsive today, opens eyes to
   commands and spontaneously moves all extremities.  No significant
   change in this regard since yesterday.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-13**] 10:09 PM
   Meropenem - [**2124-9-14**] 02:24 AM
   Linezolid - [**2124-9-14**] 04:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-13**] 07:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-14**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 105 (88 - 106) bpm
   BP: 120/76(88) {83/52(28) - 132/88(94)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  2,420 mL
                                                                    863 mL
   PO:
             TF:
   IVF:
                                                                  1,889 mL
                                                                    558 mL
   Blood products:
                                                                    272 mL
   Total out:
                                                                  1,265 mL
                                                                    230 mL
   Urine:
                                                                  1,265 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,155 mL
                                                                    633 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (342 - 623) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance:  edematous, jaundiced male appearing older than
   stated age, sedated, intubated, but  responsive to voice commands,
   moving all four extremities spontaneously, opens eyes to command
    Eyes / Conjunctiva: marked scleral edema (chemiosis), scleral icterus,
   pupils equal round and reactive to light
   Head, Ears, Nose, Throat:  NGT for PO meds, oropharynx w/ clear
   secretions
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: tachycardic, normal S1, S2 no murmurs appreciated
   Lungs: Diffuse coarse breathsounds anterior and posterior exam,
   bibasilar crackles
   Abdomen: hypoactive bowel sounds, soft, non-distended, tenderness
   unable to assess
   Ext: warm, 3+ pitting edema in b/l lower extremities, 3+ pitting edema
   upper extremities; total body anasarca
   Neuro: limited by mental status, AAOx0, moving all 4 extremities
   spontaneously
   Labs / Radiology
   66 K/uL
   8.4 g/dL
   113 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   60 mg/dL
   107 mEq/L
   140 mEq/L
   24.0 %
   2.2 K/uL
        [image002.jpg]
                            [**2124-9-11**]  04:50 AM
                            [**2124-9-11**]  05:05 AM
                            [**2124-9-11**]  12:16 PM
                            [**2124-9-12**]  03:50 AM
                            [**2124-9-12**]  03:48 PM
                            [**2124-9-12**]  08:00 PM
                            [**2124-9-13**]  03:42 AM
                            [**2124-9-13**]  05:18 AM
                            [**2124-9-13**]  03:40 PM
                            [**2124-9-14**]  03:49 AM
   WBC
   2.0
   1.0
   1.8
   2.0
   2.0
   1.8
   2.2
   Hct
   20.9
   20.6
   22.8
   24.4
   24.3
   24.3
   24.0
   Plt
   20
   10
   107
   112
   101
   91
   72
   66
   Cr
   0.5
   0.5
   0.8
   0.8
   TCO2
   25
   26
   Glucose
   258
   111
   107
   113
   Other labs: PT / PTT / INR:11.6/30.4/1.0, ALT / AST:96/90, Alk Phos / T
   Bili:533/8.0, Differential-Neuts:84.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:1.7 g/dL, LDH:392 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   # Worsening AMS: No significant change from yesterday, but overall
   improvement compared to several days ago.  Underlying etiology of AMS
   is unclear.  Represents the main obstacle to extubation of this
   patient.  Could be infectious, including fungemia in his setting with
   so many risk factors and an elevated beta glucan. CSF studies all
   negative including BK/[**Male First Name (un) 561**] and adenovirus. Patient received two doses of
   cidofovir so far, first on [**8-25**] and [**9-1**], (was pretreated in ICU with
   probenecid and IVF).  EEG negative for seizures.  Hepatic
   encephalopathy less likely given EEG pattern and waxing and [**Doctor Last Name 533**]
   mental status not correlating with LFTs prior to arrival.
   -D/c Benadryl
   -Attempt to extubate today as the pt. seems to reached a stable level
   of improvement in AMS after discussing re-intubation plans with pt.
   wife.
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50. Linezolid is currently day 4 which was
   added for his PNA. Patient continues to be having melanic stools, but
   Hct has remained stable at this time.
   - transfuse 1 units pRBCs. The patient remains hemodynamically stable
   and has not required any pressors.
   - Continue to check HCT [**Hospital1 **], if unstable, dropping GI consult- stress
   ulceration vs. GVHD
   - Continue broad Abx coverage with Meropenem, Linezolid (day 4 of 10
   day course for PNA) and ambisome 400mg IV q24h
   - continue neutropenic precautions
   - T&C 2 units
   - Restraints for now in setting of agitation
   - follow up BK virus load and Bcx, CMV and EBV PCR, pending Blood Cx
   - amio held as pt in sinus
   .
   # PNA- bilateral apical infiltrates could be [**12-20**] aspiration PNA
   (although RUL infiltrates are abormal for aspiration PNA could be
   possible in this patient due to positioning during code and  recumbent
   position). Started on Linezolid (currently day 4 of a 10 day total
   course).  Plt have been slowly trending down, so continue to monitor
   [**Hospital1 **].
   - continue linezolid IV 600mg q12h as per ID recs
   -F/u CXR today
   - monitor Plts and transfuse for Plt < 50
   .
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate Dr. [**Last Name (STitle) 21**]
s recs
   - follow-up any pending heme/onc recs
   #  Melena
 GVHD vs. stress ulcer; Hct has been stable
   -Continue to follow HCt [**Hospital1 **]
   - If trending down, GI consult
   - Transfuse pRBCs for Hct < 25 (1 unit pRBCs today to assist with
   # Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome.
   - Bladder scan
   - Replace with triple lumen catheter
   - Manual irrigation, consider CBI if not resolved
   -Consider decreasing Ambisome dose or switching to another antifungal
   [**Doctor Last Name **]
   .
   #  Nutrition
 The patient can get TPN via double lumen
   -TPN via double lumen
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2124-9-13**] 05:51 PM 42 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Prophylaxis:
   DVT: None
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition:

2124-09-14 10:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Continues with SBT > 72
   hrs (IPS=5, PEEP=5).
   Remains predominatelly with closed eyes, but opens to command (fairly
   consistently).
   Overall, neurological exam somewhat variable over course of day.
   Able to lift head off bed pillow.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-13**] 10:09 PM
   Linezolid - [**2124-9-14**] 04:02 AM
   Meropenem - [**2124-9-14**] 08:25 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-14**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-14**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 101 (88 - 113) bpm
   BP: 99/68(83) {92/52(28) - 132/88(94)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  2,420 mL
                                                                  1,138 mL
   PO:
             TF:
   IVF:
                                                                  1,889 mL
                                                                    699 mL
   Blood products:
                                                                    272 mL
   Total out:
                                                                  1,265 mL
                                                                    255 mL
   Urine:
                                                                  1,265 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,155 mL
                                                                    883 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (342 - 556) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically-ill appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Able to opens eyes, move
   hands/arms, feet (fairly consistently)
   Labs / Radiology
   8.4 g/dL
   66 K/uL
   113 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   60 mg/dL
   107 mEq/L
   140 mEq/L
   24.0 %
   2.2 K/uL
        [image002.jpg]
                            [**2124-9-11**]  04:50 AM
                            [**2124-9-11**]  05:05 AM
                            [**2124-9-11**]  12:16 PM
                            [**2124-9-12**]  03:50 AM
                            [**2124-9-12**]  03:48 PM
                            [**2124-9-12**]  08:00 PM
                            [**2124-9-13**]  03:42 AM
                            [**2124-9-13**]  05:18 AM
                            [**2124-9-13**]  03:40 PM
                            [**2124-9-14**]  03:49 AM
   WBC
   2.0
   1.0
   1.8
   2.0
   2.0
   1.8
   2.2
   Hct
   20.9
   20.6
   22.8
   24.4
   24.3
   24.3
   24.0
   Plt
   20
   10
   107
   112
   101
   91
   72
   66
   Cr
   0.5
   0.5
   0.8
   0.8
   TCO2
   25
   26
   Glucose
   258
   111
   107
   113
   Other labs: PT / PTT / INR:11.6/30.4/1.0, ALT / AST:96/90, Alk Phos / T
   Bili:533/8.0, Differential-Neuts:84.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:1.7 g/dL, LDH:392 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   57 yom CLL (large cell transformation) --> s/p allo SCT in [**2-24**], now
   returns to MICU following PEA arrest.
   RESPIRATORY FAILURE -- intubated in context of PEA arrest.  Radigraphic
   evidence for new RUL and LUL (post) infiltrate, suspect aspiration.
   Plan continue mechanical ventilation.  Extubation attempt may be
   limited by altered mental status, although mental status may now be
   back at baseline.
   PULMONARY INFILTRATES -- new since [**2124-9-6**] and attributed to
   aspiration event.  Continue treatment as aspiration pneumonia.
   PEA ARREST -- unclear precipitant.  Concerns include aspiration with
   hypoxemia, acidosis, hypovolemia.  Improved.  No further episodes.
   TACHYCARDIA
 likley aggition and possible hypovolemia
   (intravascular).  Plan volume expand.
   HYPOTENSION -- attributed in part to infection and to pharmacological
   agents.  Improved.
   GI BLEED -- [**Last Name **] problem, may represent passing of oral bleeding, but at
   risk for PUD, GVHD, or other Gi pathology (at risk while NPO and on
   steroids).  Monitor.  If melena continues, and Hct continues to fall,
   consider GI consultation.
   HEMATUREIA -- attributed to foley catheter trauma in setting of
   thrombocytopenia.  Improved, but need to monitor.  Ambisone may
   precipitate cystitis and bleeding.
   A-FIB -- now back in NSR, off amioderone.  Monitor HR.
   ALTERED MENTAL STATUS -- unclear etiology.  Attributed to medications,
   viremia, possible hepatic encephalopathy.  Likely contribution of
   SDH.   Limit psychotropic meds if possible.   Unclear whether SDH
   drainage viable option (in context of severe thrombocytopenia).
   Monitor.
   CLL --> s/p BMTx, c/b GVHD:   Continue immunosuppressant and
   prophylactic regimens.  Continue cidofovir.
   HYPOGLYCEMIA -- episodic.  Attributed to insulin in TPN, now
   discontinued.  Possible related to ongoing infections.
   FLUIDS -- replete.  Monitor I/O.
   ANEMIA -- attributed to immunosuppression, and recent blood loss.
   Monitor Hct, transfuse <25.
   THROMBOCYTOPENIA -- attributed to immunosuppression/infection/GVHD.
   Will transfuse for plts <50.
   HTN -- hold anti-HTN meds while on vasopressor.
   NUTRITIONAL SUPPORT -- hope to resume TPN via PICC --> may require new
   central line.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2124-9-13**] 05:51 PM 42 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-15 08:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-9-14**] 05:23 PM
   - recieved 1uPRBC and 1u PLT
   - CBI for hematuria
   - ambisome decresed to 250 q24 (from 400) given concern for hematuria
   - ID: check stool for c diff
   - CXR: Dense right upper lobe consolidation with volume loss, new since
   the [**2124-9-13**] study.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-14**] 09:24 PM
   Linezolid - [**2124-9-15**] 03:51 AM
   Meropenem - [**2124-9-15**] 07:53 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2124-9-15**] 05:26 AM
   Pantoprazole (Protonix) - [**2124-9-15**] 07:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-15**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 105 (90 - 105) bpm
   BP: 137/81(93) {77/57(62) - 151/110(117)} mmHg
   RR: 22 (15 - 24) insp/min
   SpO2: 99% to 100% on 50% FIO2 to RA.
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  3,049 mL
                                                                  1,296 mL
   PO:
             TF:
   IVF:
                                                                  1,826 mL
                                                                  1,296 mL
   Blood products:
                                                                    481 mL
   Total out:
                                                                  1,645 mL
                                                                    400 mL
   Urine:
                                                                  1,645 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,404 mL
                                                                    896 mL
   Respiratory support
   O2 Delivery Device: None, Venti mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 488 (445 - 518) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   rhonchurous RUL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: alert but disoriented. Moving upper ext.Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   71 K/uL
   8.2 g/dL
   140 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.5 mEq/L
   58 mg/dL
   108 mEq/L
   140 mEq/L
   23.0 %
   2.7 K/uL
        [image002.jpg]
                            [**2124-9-12**]  03:50 AM
                            [**2124-9-12**]  03:48 PM
                            [**2124-9-12**]  08:00 PM
                            [**2124-9-13**]  03:42 AM
                            [**2124-9-13**]  05:18 AM
                            [**2124-9-13**]  03:40 PM
                            [**2124-9-14**]  03:49 AM
                            [**2124-9-14**]  06:15 PM
                            [**2124-9-15**]  12:10 AM
                            [**2124-9-15**]  04:30 AM
   WBC
   1.0
   1.8
   2.0
   2.0
   1.8
   2.2
   2.5
   2.7
   Hct
   20.6
   22.8
   24.4
   24.3
   24.3
   24.0
   23.8
   24.7
   23.0
   Plt
   10
   107
   112
   101
   91
   72
   66
   49
   85
   71
   Cr
   0.5
   0.8
   0.8
   0.7
   0.7
   Glucose
   111
   107
   113
   167
   140
   Other labs: PT / PTT / INR:11.6/30.4/1.0, ALT / AST:94/93, Alk Phos / T
   Bili:503/7.4, Differential-Neuts:78.3 %, Band:0.0 %, Lymph:14.0 %,
   Mono:6.9 %, Eos:0.7 %, Fibrinogen:404 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:2.1 g/dL, LDH:390 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   Imaging: Provisional Findings Impression: [**First Name9 (NamePattern2) **] [**Doctor First Name **] [**2124-9-14**] 4:54 PM
   1. Dense right upper lobe consolidation with volume loss, new since the
   [**2124-9-13**] study.
   2. Worsening of already very low lung volumes.
   3. ET and left subclavian central venous catheter, unchanged in
   position.
   Microbiology: [**9-12**] EBV viral load: non-detected
   B glucan, galactomanin pending.
   .
   [**2124-9-14**] 6:53 pm SPUTUM     Site: INDUCED      Source: Induced.
      GRAM STAIN (Final [**2124-9-15**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
   .
   CMV pending.
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   # Worsening AMS: No significant change from yesterday, but overall
   improvement compared to several days ago.  Underlying etiology of AMS
   is unclear.  Represents the main obstacle to extubation of this
   patient.  Could be infectious, including fungemia in his setting with
   so many risk factors and an elevated beta glucan. CSF studies all
   negative including BK/[**Male First Name (un) 561**] and adenovirus. Patient received two doses of
   cidofovir so far, first on [**8-25**] and [**9-1**], (was pretreated in ICU with
   probenecid and IVF).  EEG negative for seizures.  Hepatic
   encephalopathy less likely given EEG pattern and waxing and [**Doctor Last Name 533**]
   mental status not correlating with LFTs prior to arrival.
   -D/c Benadryl
   -Attempt to extubate today as the pt. seems to reached a stable level
   of improvement in AMS after discussing re-intubation plans with pt.
   wife.
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50. Linezolid is currently day 4 which was
   added for his PNA. Patient continues to be having melanic stools, but
   Hct has remained stable at this time.
   - transfuse 1 units pRBCs. The patient remains hemodynamically stable
   and has not required any pressors.
   - Continue to check HCT [**Hospital1 **], if unstable, dropping GI consult- stress
   ulceration vs. GVHD
   - Continue broad Abx coverage with Meropenem, Linezolid (day 4 of 10
   day course for PNA) and ambisome 400mg IV q24h
   - continue neutropenic precautions
   - T&C 2 units
   - Restraints for now in setting of agitation
   - follow up BK virus load and Bcx, CMV and EBV PCR, pending Blood Cx
   - amio held as pt in sinus
   .
   # PNA- bilateral apical infiltrates could be [**12-20**] aspiration PNA
   (although RUL infiltrates are abormal for aspiration PNA could be
   possible in this patient due to positioning during code and  recumbent
   position). Started on Linezolid (currently day 4 of a 10 day total
   course).  Plt have been slowly trending down, so continue to monitor
   [**Hospital1 **].
   - continue linezolid IV 600mg q12h as per ID recs
   -F/u CXR today
   - monitor Plts and transfuse for Plt < 50
   .
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate Dr. [**Last Name (STitle) 21**]
s recs
   - follow-up any pending heme/onc recs
   #  Melena
 GVHD vs. stress ulcer; Hct has been stable
   -Continue to follow HCt [**Hospital1 **]
   - If trending down, GI consult
   - Transfuse pRBCs for Hct < 25 (1 unit pRBCs today to assist with
   # Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome.
   - Bladder scan
   - Replace with triple lumen catheter
   - Manual irrigation, consider CBI if not resolved
   -Consider decreasing Ambisome dose or switching to another antifungal
   [**Doctor Last Name **]
   .
   #  Nutrition
 The patient can get TPN via double lumen
   -TPN via double lumen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-09-15 10:55:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, confusion.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday afternoon, remains extubated.
   Body temp stable, but remains on warming blanket.
   Remains awake, opens eyes intermittently, moaning periodically.
   Appears comfortable.
   Hematuria persists --> Urology irrigated bladder  yesterday, now with
   continuous bladder washes.  Improving.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-14**] 09:24 PM
   Linezolid - [**2124-9-15**] 03:51 AM
   Meropenem - [**2124-9-15**] 07:53 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2124-9-15**] 05:26 AM
   Pantoprazole (Protonix) - [**2124-9-15**] 07:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-15**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 108 (90 - 108) bpm
   BP: 130/60(77) {77/35(61) - 151/110(117)} mmHg
   RR: 23 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  3,049 mL
                                                                  1,496 mL
   PO:
             TF:
   IVF:
                                                                  1,826 mL
                                                                  1,496 mL
   Blood products:
                                                                    481 mL
   Total out:
                                                                  1,645 mL
                                                                    700 mL
   Urine:
                                                                  1,645 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,404 mL
                                                                    796 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 488 (445 - 518) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   71 K/uL
   140 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.5 mEq/L
   58 mg/dL
   108 mEq/L
   140 mEq/L
   23.0 %
   2.7 K/uL
        [image002.jpg]
                            [**2124-9-12**]  03:50 AM
                            [**2124-9-12**]  03:48 PM
                            [**2124-9-12**]  08:00 PM
                            [**2124-9-13**]  03:42 AM
                            [**2124-9-13**]  05:18 AM
                            [**2124-9-13**]  03:40 PM
                            [**2124-9-14**]  03:49 AM
                            [**2124-9-14**]  06:15 PM
                            [**2124-9-15**]  12:10 AM
                            [**2124-9-15**]  04:30 AM
   WBC
   1.0
   1.8
   2.0
   2.0
   1.8
   2.2
   2.5
   2.7
   Hct
   20.6
   22.8
   24.4
   24.3
   24.3
   24.0
   23.8
   24.7
   23.0
   Plt
   10
   107
   112
   101
   91
   72
   66
   49
   85
   71
   Cr
   0.5
   0.8
   0.8
   0.7
   0.7
   Glucose
   111
   107
   113
   167
   140
   Other labs: PT / PTT / INR:11.6/30.4/1.0, ALT / AST:94/93, Alk Phos / T
   Bili:503/7.4, Differential-Neuts:78.3 %, Band:0.0 %, Lymph:14.0 %,
   Mono:6.9 %, Eos:0.7 %, Fibrinogen:404 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:2.1 g/dL, LDH:390 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   57 yom CLL (large cell transformation) --> s/p allo SCT in [**2-24**], now
   returns to MICU following PEA arrest.
   RESPIRATORY FAILURE -- Extubated successfully.  (intubated in context
   of PEA arrest).  Radigraphic evidence for RUL and LUL (posterior)
   infiltrate, suspect aspiration pneumonia, now with evidence for RUL
   volume loss (atalectasis).
   PULMONARY INFILTRATES -- Aspiration pneumonia, now with superimposed
   volume loss.  Continue antimicrobials.  Encourage deep breathing.  RUL
   atalectasis resolved.
   PEA ARREST -- unclear precipitant.  Concerns include aspiration with
   hypoxemia, acidosis, hypovolemia.  Improved.  No further episodes.
   TACHYCARDIA
 likley aggition and possible hypovolemia
   (intravascular).  Monitor.
   HYPOTENSION --  Improved.  Monitor BP.
   GI BLEED -- improved.  Monitor stool guiac.
   HEMATUREIA -- attributed to foley catheter trauma in setting of
   thrombocytopenia.  Improved, but need to monitor.  Ambisone may
   precipitate cystitis and bleeding.
   A-FIB -- now back in NSR, off amioderone.  Monitor HR.
   ALTERED MENTAL STATUS -- unclear etiology.  Attributed to medications,
   viremia, possible hepatic encephalopathy.  Likely contribution of
   SDH.   Limit psychotropic meds if possible.   Unclear whether SDH
   drainage viable option (in context of severe thrombocytopenia).
   Monitor.
   CLL --> s/p BMTx, c/b GVHD:   Continue immunosuppressant and
   prophylactic regimens.  Continue cidofovir.
   HYPOGLYCEMIA -- episodic.  Attributed to insulin in TPN, now
   discontinued.  Possible related to ongoing infections.
   FLUIDS -- replete.  Monitor I/O.
   ANEMIA -- attributed to immunosuppression, and recent blood loss.
   Monitor Hct, transfuse <25.
   THROMBOCYTOPENIA -- attributed to immunosuppression/infection/GVHD.
   Will transfuse for plts <50.
   HTN -- hold anti-HTN meds while on vasopressor.
   NUTRITIONAL SUPPORT -- hope to resume TPN via PICC --> may require new
   central line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-16 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC ARREST - At [**2124-9-16**] 12:51 AM
 INVASIVE VENTILATION - START [**2124-9-16**] 01:00 AM
 MULTI LUMEN - START [**2124-9-16**] 02:21 AM
 EKG - At [**2124-9-16**] 03:40 AM
 BRONCHOSCOPY - At [**2124-9-16**] 04:13 AM
   - 12:48 a.m.: developed progressive bradycardia, followed by PEA
   arrest, got intubated by anesthesia, who suctioned a mucus plus. After
   1st mg of epinephrine, regained pulse. Arrest thought to be [**12-20**] mucous
   plugging, although patient had normal O2 sat prior to arrest
   - had episodes of bradycardia throughout the night
   At 1248 am, Pt noted to be HTN to SBP 190s and bradycardia. Over the
   period of one minute pt became progressively bradycardic to 20s and
   then went into pulseless Vtach. Code blue was called. CPR was started.
   By the time pads were applied to the patient he had transitioned to
   PEA. 1mg epi was given. IVF were started wide open. Pulse returned and
   CPR was stoped. Pt was intubated with 8 ET. Femoral line was placed in
   R groin. During intubation a large quanitiy of mucous / plug was
   suctioned. BP was undetectable but recoved with MAP > 110 prior
   begining pressors. CXR was obtained, which showed increased prominance
   of haziness in Left lung but no edema. lactate 2.6, ABG with metabolic
   and respiratoy acidosis. Wife was [**Name (NI) 167**] and is on her way to the
   hospital. Pt stabilzed, likely cause of PEA arrest was aspiration /
   mucos plugging.  Total time of code approximately 30 min. Total CPR
   time < 5 minutes
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-14**] 09:24 PM
   Meropenem - [**2124-9-16**] 03:05 AM
   Linezolid - [**2124-9-16**] 04:38 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-15**] 07:53 AM
   Fentanyl - [**2124-9-15**] 05:24 PM
   Atropine - [**2124-9-16**] 03:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-16**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 91 (35 - 126) bpm
   BP: 111/68(77) {102/35(61) - 191/117(134)} mmHg
   RR: 17 (10 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  3,236 mL
                                                                  1,753 mL
   PO:
             TF:
   IVF:
                                                                  2,438 mL
                                                                  1,282 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,736 mL
                                                                  1,753 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/38/92.[**Numeric Identifier 132**]/23/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 93
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   rhonchurous RUL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: alert but disoriented. Moving upper ext.Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   52 K/uL
   8.7 g/dL
   193 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   58 mg/dL
   110 mEq/L
   139 mEq/L
   23.8 %
   2.6 K/uL
        [image002.jpg]
                            [**2124-9-14**]  06:15 PM
                            [**2124-9-15**]  12:10 AM
                            [**2124-9-15**]  04:30 AM
                            [**2124-9-15**]  05:38 PM
                            [**2124-9-16**]  01:02 AM
                            [**2124-9-16**]  01:10 AM
                            [**2124-9-16**]  01:16 AM
                            [**2124-9-16**]  01:19 AM
                            [**2124-9-16**]  03:41 AM
                            [**2124-9-16**]  04:26 AM
   WBC
   2.5
   2.7
   3.2
   5.1
   2.6
   Hct
   23.8
   24.7
   23.0
   26.2
   27.1
   23.8
   Plt
   49
   85
   71
   64
   57
   52
   Cr
   0.7
   0.7
   0.8
   0.8
   TCO2
   23
   24
   23
   24
   Glucose
   167
   140
   178
   193
   Other labs: PT / PTT / INR:11.9/38.0/1.0, ALT / AST:81/90, Alk Phos / T
   Bili:495/7.5, Differential-Neuts:62.7 %, Band:0.0 %, Lymph:30.3 %,
   Mono:6.1 %, Eos:0.7 %, Fibrinogen:404 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.0 g/dL, LDH:392 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   # Aspiration PNA:  Likely cause of PEA arrest. Extubated yesterday
   without difficulty, now stable on RA.  Despite improvement clinically
   today has a worsening RUL consolidation on CXR. Given clinical senerio
   more likely mucous plugging with volume loss than worsening infiltrate.
   - EBV viral load negative
   - continue broad coverage with Ambisome, linezolid, and [**Last Name (un) 614**]
   - appreciate ID recs. Will consider adding gent if clinically worsens
   - trend CXR
   - aspiration precautions.
   .
   # altered MS:  since extubation has improved, now  making eye contact.
   Moaning without coherent words, which was baseline during last ICU
   admission. Etiology remains unclear, ? [**12-20**] BK viremia
   - avoid sedating meds
   - frequent orientation
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50.
   - transfuse 1 units pRBCs.
   - post transfusion HCT
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT  recs
   #  Melena
 GVHD vs. stress ulcer; Hct has been stable. Only one small
   melenotic stools in last 24 hrs.
   -Continue to follow HCt [**Hospital1 **]
   - If trending down, GI consult
   - Transfuse pRBCs for Hct < 25 (1 unit pRBCs today)
   # Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome vs
   thrombocytopenia .  Clearly today.
   - titrate off CBI
   - appreciate urology input
   - continue ambisome at lower dose.
   - replete Plt as above
   .
   #  Nutrition
Clarified  The patient can get TPN via double lumen
   -TPN via double lumen
   ICU Care
   Nutrition:
   TPN without Lipids - [**2124-9-15**] 05:00 PM 64 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Multi Lumen - [**2124-9-16**] 02:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-09-16 08:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - 12:48 a.m.: developed progressive bradycardia with normal O2
   saturations, followed by pulseless V-tach.  CPR was initiated.   V-tach
   became PEA before paddles were in place.  Anethesia placed at ET tube
   and suctioned a large mucus plus.  The patient received 1 mg of
   epinephrine before regaining pulse and blood pressure.
   - Following the Code Blue, the patient had recurrent transient
   bradycardia throughout the night, requiring 0.5 mg of atropine.
   Bronchoscopy was performed to ensure that there were no residual mucus
   plugs.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-14**] 09:24 PM
   Meropenem - [**2124-9-16**] 03:05 AM
   Linezolid - [**2124-9-16**] 04:38 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2124-9-15**] 05:24 PM
   Atropine - [**2124-9-16**] 03:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-16**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 91 (35 - 126) bpm
   BP: 111/68(77) {102/35(61) - 191/117(134)} mmHg
   RR: 17 (10 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  3,236 mL
                                                                  1,803 mL
   PO:
             TF:
   IVF:
                                                                  2,438 mL
                                                                  1,292 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,736 mL
                                                                  1,803 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/38/92.[**Numeric Identifier 132**]/23/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 116
   Physical Examination
   General Appearance: Intubated, sedated.
   Eyes / Conjunctiva: Icteric sclerae. PERRL.
   Cardiovascular: RRR. No M/G/R.
   Respiratory / Chest: Bilateral breath sounds, equal at apeces but
   decreased at left base.
   Abdominal: Soft.
   Extremities: 2+ bilateraly LE edema.
   Neurologic: Sedated.
   Labs / Radiology
   52 K/uL
   8.7 g/dL
   193 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   58 mg/dL
   110 mEq/L
   139 mEq/L
   23.8 %
   2.6 K/uL
        [image002.jpg]
                            [**2124-9-14**]  06:15 PM
                            [**2124-9-15**]  12:10 AM
                            [**2124-9-15**]  04:30 AM
                            [**2124-9-15**]  05:38 PM
                            [**2124-9-16**]  01:02 AM
                            [**2124-9-16**]  01:10 AM
                            [**2124-9-16**]  01:16 AM
                            [**2124-9-16**]  01:19 AM
                            [**2124-9-16**]  03:41 AM
                            [**2124-9-16**]  04:26 AM
   WBC
   2.5
   2.7
   3.2
   5.1
   2.6
   Hct
   23.8
   24.7
   23.0
   26.2
   27.1
   23.8
   Plt
   49
   85
   71
   64
   57
   52
   Cr
   0.7
   0.7
   0.8
   0.8
   TCO2
   23
   24
   23
   24
   Glucose
   167
   140
   178
   193
   Other labs: PT / PTT / INR:11.9/38.0/1.0, ALT / AST:81/90, Alk Phos / T
   Bili:495/7.5, Differential-Neuts:62.7 %, Band:0.0 %, Lymph:30.3 %,
   Mono:6.1 %, Eos:0.7 %, Fibrinogen:404 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.0 g/dL, LDH:392 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after cardiac arrest on
   [**9-10**],  now with recurrent cardiac arrest in the early a.m. on
   [**2124-9-16**].
   # Cardiac arrest: Etiology unclear. Leading diagnosis is mucus
   plugging, but there was no hypoxemia prior to the onset of
   bradycardia.  Other possible etiologies include intrinsic cardiac, or
   neurologic.  Hypertension and bradycardia that preceeded arrest are
   concerning for elevated ICP, particularly in the setting of known
   subdural hematomas.
   - Maintain K>4, Mg>2
   # Aspiration PNA:  Likely cause of PEA arrest. Extubated yesterday
   without difficulty, now stable on RA.  Despite improvement clinically
   today has a worsening RUL consolidation on CXR. Given clinical senerio
   more likely mucous plugging with volume loss than worsening infiltrate.
   - EBV viral load negative
   - continue broad coverage with Ambisome, linezolid, and [**Last Name (un) 614**]
   - appreciate ID recs. Will consider adding gent if clinically worsens
   - trend CXR
   - aspiration precautions.
   .
   # altered MS:  since extubation has improved, now  making eye contact.
   Moaning without coherent words, which was baseline during last ICU
   admission. Etiology remains unclear, ? [**12-20**] BK viremia
   - avoid sedating meds
   - frequent orientation
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50.
   - transfuse 1 units pRBCs.
   - post transfusion HCT
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT  recs
   #  Melena
 GVHD vs. stress ulcer; Hct has been stable. Only one small
   melenotic stools in last 24 hrs.
   -Continue to follow HCt [**Hospital1 **]
   - If trending down, GI consult
   - Transfuse pRBCs for Hct < 25 (1 unit pRBCs today)
   # Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome vs
   thrombocytopenia .  Clearly today.
   - titrate off CBI
   - appreciate urology input
   - continue ambisome at lower dose.
   - replete Plt as above
   .
   #  Nutrition
Clarified  The patient can get TPN via double lumen
   -TPN via double lumen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, floor tomorrow if stable

2124-09-16 09:59:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: s/p cardiac arrest x 2
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CARDIAC ARREST - At [**2124-9-16**] 12:51 AM
 INVASIVE VENTILATION - START [**2124-9-16**] 01:00 AM
 MULTI LUMEN - START [**2124-9-16**] 02:21 AM
 EKG - At [**2124-9-16**] 03:40 AM
 BRONCHOSCOPY - At [**2124-9-16**] 04:13 AM
   Event overnight described as: bradycardia with normal sats, followed by
   VT, followed by PEA.  Received a few minutes of compressions,
   intubation.  Large mucus plug removed.  No further plugs by bronch.
   Subsequently, had ongoing bradycardia (well after the primary event)
   and received some atropine.
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-14**] 09:24 PM
   Meropenem - [**2124-9-16**] 03:05 AM
   Linezolid - [**2124-9-16**] 04:38 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2124-9-15**] 05:24 PM
   Atropine - [**2124-9-16**] 03:07 AM
   Other medications:
   PPI, insulin, MMF, methylpred [**8-21**], ursodiol, linzeolid, ambisome, CHG,
   propofol, meropenem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-16**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.3
C (95.6
   HR: 94 (35 - 126) bpm
   BP: 102/64(73) {102/48(71) - 191/117(134)} mmHg
   RR: 20 (10 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  3,236 mL
                                                                  1,895 mL
   PO:
             TF:
   IVF:
                                                                  2,438 mL
                                                                  1,305 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,736 mL
                                                                  1,895 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/38/92.[**Numeric Identifier 132**]/23/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 116
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   52 K/uL
   193 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   58 mg/dL
   110 mEq/L
   139 mEq/L
   23.8 %
   2.6 K/uL
        [image002.jpg]
                            [**2124-9-14**]  06:15 PM
                            [**2124-9-15**]  12:10 AM
                            [**2124-9-15**]  04:30 AM
                            [**2124-9-15**]  05:38 PM
                            [**2124-9-16**]  01:02 AM
                            [**2124-9-16**]  01:10 AM
                            [**2124-9-16**]  01:16 AM
                            [**2124-9-16**]  01:19 AM
                            [**2124-9-16**]  03:41 AM
                            [**2124-9-16**]  04:26 AM
   WBC
   2.5
   2.7
   3.2
   5.1
   2.6
   Hct
   23.8
   24.7
   23.0
   26.2
   27.1
   23.8
   Plt
   49
   85
   71
   64
   57
   52
   Cr
   0.7
   0.7
   0.8
   0.8
   TCO2
   23
   24
   23
   24
   Glucose
   167
   140
   178
   193
   Other labs: PT / PTT / INR:11.9/38.0/1.0, ALT / AST:81/90, Alk Phos / T
   Bili:495/7.5, Differential-Neuts:62.7 %, Band:0.0 %, Lymph:30.3 %,
   Mono:6.1 %, Eos:0.7 %, Fibrinogen:404 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.0 g/dL, LDH:392 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   57-year-old man with CLL (large cell transformation) now s/p second
   cardiac arrest.
   Cardiac arrest
   Event last night appears to have been bradycardia, then VT
   (?polymorphic), then narrow-complex PEA.  Although there was a mucus
   plug extracted, there were documented normal oxygen saturations pre and
   post.
   Although mucus plug is probably the most likely event, there are some
   atypical factors.  We will plan:
   CT head to evaluate for changes in SDH
   CT / PE protocol to exclude pulmonary embolism
   Consult cardiology for assistance in rhythm evaluation.  Consider echo.
   Respiratory failure
   Extremely hypoxemic.  Will move toward ventilation at low tidal volumes
   as if developing ARDS.
   Arterial line today (team overnight unable to place)
   Possible pneumonia / Pulmonary infiltrates
   Continue present ABX today.  Get sputum cultures.
   GI BLEED
   Improved.  Monitor stool guiac.  Transfuse today.
   HEMATURiA
   Previously attributed to foley catheter trauma in setting of
   thrombocytopenia.  Improved, but need to monitor.  Ambisone may
   precipitate cystitis and bleeding.
   A-FIB
   off amiodarone.  Monitor HR.
   CLL
   s/p BMTx, c/b GVHD:   Continue immunosuppressant and prophylactic
   regimens.
   THROMBOCYTOPENIA
   Attributed to immunosuppression/infection/GVHD. Will transfuse for plts
   <50.
   NUTRITIONAL SUPPORT
   On TPN via PICC.  Will discuss enteral nutrition with Onc.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2124-9-15**] 05:00 PM 64 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Multi Lumen - [**2124-9-16**] 02:21 AM
   Will need fem line either removed or resited today.
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:  Discussed with wife; all questions answered.
   Code status: Full code
   Disposition : ICU
   Total time spent:  45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Discussion held with pt
s wife by Dr. [**Last Name (STitle) 21**], Mr. [**Known lastname 9130**]
s primary
   oncologist.  They agreed that we would continue present approach to
   treatment, but that if the situation worsened would plan to not
   escalate care.  For example, shock that requires vasopressors would be
   viewed as escalation.  In addition, no CPR or shock in case of arrest.
   Procedure: Ultrasound-guided arterial catheterization
   Indication: respiratory and hemodynamic monitoring
   Operator: [**Location (un) **]
   After consent from wife, site prepped and draped with full barrier
   precautions.  Real-time ultrasound guidance used given prior
   unsuccessful attempts.  Radial artery visualized proximal to wrist.
   Single pass with 20g arrow device with integral wire.  No
   complications.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2124-9-16**] 04:46 PM ------

2124-09-17 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Got 2 units of pRBC & 1 u Platelets yesterday based on Transfusion
   goal Plt > 50, Hct >25
   - Got A-line (US guided high radial stick)
   - Received multiple 500ml NS boluses (3.5 L IVF total over 24 hours) to
   keep blood pressure up.
   This AM, the ptl. Is sedated and unresponsive to voice commands.  BP is
   are currently stable and he is satting 100%.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-16**] 10:15 PM
   Meropenem - [**2124-9-17**] 03:00 AM
   Linezolid - [**2124-9-17**] 03:30 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-16**] 07:41 PM
   Fentanyl - [**2124-9-17**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-17**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.2
C (95.4
   HR: 64 (51 - 101) bpm
   BP: 114/70(83) {85/49(60) - 130/77(95)} mmHg
   RR: 16 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
           Total In:
                                                                  5,738 mL
                                                                  1,717 mL
   PO:
           TF:
   IVF:
                                                                  3,596 mL
                                                                    779 mL
   Blood products:
                                                                    521 mL
                                                                    350 mL
   Total out:
                                                                    995 mL
                                                                    200 mL
   Urine:
                                                                    995 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,743 mL
                                                                  1,517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/26/73.[**Numeric Identifier 218**]/20/-1
   Ve: 8 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: No acute distress.  Intubated, sedated, no
   responsive to verbal commands.
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   rhonchurous RUL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: alert but disoriented. Moving upper ext.Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   61 K/uL
   10.0 g/dL
   260 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.4 mEq/L
   67 mg/dL
   110 mEq/L
   133 mEq/L
   27.8 %
   2.7 K/uL
        [image002.jpg]
                            [**2124-9-16**]  01:10 AM
                            [**2124-9-16**]  01:16 AM
                            [**2124-9-16**]  01:19 AM
                            [**2124-9-16**]  03:41 AM
                            [**2124-9-16**]  04:26 AM
                            [**2124-9-16**]  02:46 PM
                            [**2124-9-16**]  05:49 PM
                            [**2124-9-16**]  06:31 PM
                             [**2124-9-17**]  05:08 AM
                             [**2124-9-17**]  05:44 AM
   WBC
   5.1
   2.6
   2.8
   2.7
   Hct
   27.1
   23.8
   24.6
   27.8
   Plt
   57
   52
   76
   61
   Cr
   0.8
   0.8
   0.9
   0.8
   TropT
   0.13
   TCO2
   24
   23
   24
   24
   23
   20
   Glucose
   178
   193
   222
   260
   Other labs: PT / PTT / INR:11.6/31.9/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:73/83, Alk Phos / T Bili:485/8.9,
   Differential-Neuts:84.0 %, Band:0.0 %, Lymph:11.2 %, Mono:4.8 %,
   Eos:0.1 %, Fibrinogen:404 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:1.6
   g/dL, LDH:395 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   # Hypotension : Pt. requiring increasing amounts of fluids to keep BPs
   up, resulting in a significantly positive balance.  He is DNR and off
   pressors.  Given this long ICU stay, he is likely to have adrenal
   insufficiency, so will start the patient on stress dose steroids to
   keep BPs elevated.  Will continue treatment with Abx for now
   -Stress dose steroids
   -LR boluses as needed to keep MAP>60 / SBP>90 (use LR given decreased
   bicarb and hyperchloremia and decreased anion gap).
   -Continue Ambisome, Linezolid and Meropenem given continued
   hypothermia, hypotension, radiographic evidence of likely infectious
   process on CXR
   -F/u ID recs
   -Switch from Fentalyl boluses to Fentanyl drip 25-50 mcg/hr for
   sedation
   -F/u CT brain to assess for extension of subdural hematoma
   -F/u CTA chest to evelaute for PE given high risk patient, not on
   anticoagulation due to pancytopenia
   # Aspiration PNA : On a most recent CXR, has an enlarging right-sided
   pleural effusion (possibly due to fluid excess) vs. RLL consolidation
   and increasing builbasilar atelectasis. Most recent episode of
   Polymorphic VTach likely secondary to mucous plugging with volume loss,
   even though the patient did not desat during that episode.  EBV viral
   load negative
   - continue broad coverage with Ambisome, Linezolid, and Meropenem
   - appreciate continued ID recs.
   - trend CXR daily
   -D/c Femoral line today as it is a high source of infection.  Obtain
   PIV access.
   .
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50.   Pt. responded appropriately to
   transfusions yesterday.
   -Continue to trend Hct and Plt closely and transfuse for above goals
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT  recs
   #  Melena
 GVHD vs. stress ulcer; Hct has been stable.
   -Continue to follow HCt [**Hospital1 **]
   - Transfuse pRBCs for Hct < 25 (1 unit pRBCs today)
   # Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome vs
   thrombocytopenia .  Improved with irrigation, but continues to be
   hematuric
   - titrate off CBI
   - continue ambisome at lower dose.
   - replete Plt as above
   .
   # Nutrition
Continue TPN via double lumen PICC.  Will try to get PIV
   for additional access.
   -TPN via double lumen
   -Re-start tube feeds as tolerated via OG tube.  D/c TPN if nutrition
   goals are met with the tube feeds.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2124-9-15**] 05:00 PM 64 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Multi Lumen - [**2124-9-16**] 02:21 AM
   A-line
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (no pressors, no compression) per most recent
   discussion with HCP

2124-09-18 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2124-9-18**] 01:03 AM
   -Required 4+ liters of IVF for hypotension, but continues to sat 100%
   on the vent
   -Started on stress doses of steriods given likely adrenal dysfunction
   -Will receive LR boluses as needed to keep BP up
   -TPN order modified to reduce amt. of acetate pt. receives given
   alkalosis
   -Received PIV x1, allowing femoral CVL to be d/c'd
   -After further discussion with Dr. [**Last Name (STitle) 21**] about goals of care, ordered
   CTA to r/u PE, CT head performed to assess for extension of subdural.
   CT head did not reveal any evidence of a rebleed, however CTA chest
   suboptimal for eval. of PE due to problems with [**Name2 (NI) 11172**] timing on
   multiple attempts.
   -Started on tube feeds, hold TPN for now.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-17**] 10:08 PM
   Meropenem - [**2124-9-18**] 04:00 AM
   Linezolid - [**2124-9-18**] 04:15 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2124-9-17**] 10:30 AM
   Pantoprazole (Protonix) - [**2124-9-17**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-18**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.7
   HR: 63 (55 - 109) bpm
   BP: 93/53(65) {80/49(58) - 114/70(83)} mmHg
   RR: 16 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  4,656 mL
                                                                    738 mL
   PO:
             TF:
   IVF:
                                                                  2,930 mL
                                                                    688 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    400 mL
                                                                    600 mL
   Urine:
                                                                    400 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,256 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 506 (475 - 517) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 37.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/29/95.[**Numeric Identifier 218**]/18/-4
   Ve: 7.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: No acute distress.  Intubated, sedated, no
   responsive to verbal commands.
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   rhonchurous RUL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: alert but disoriented. Moving upper ext.Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   35 K/uL
   10.0 g/dL
   173 mg/dL
   0.9 mg/dL
   18 mEq/L
   4.1 mEq/L
   74 mg/dL
   111 mEq/L
   138 mEq/L
   28.7 %
   2.7 K/uL
        [image002.jpg]
                            [**2124-9-16**]  01:19 AM
                            [**2124-9-16**]  03:41 AM
                            [**2124-9-16**]  04:26 AM
                            [**2124-9-16**]  02:46 PM
                            [**2124-9-16**]  05:49 PM
                            [**2124-9-16**]  06:31 PM
                             [**2124-9-17**]  05:08 AM
                             [**2124-9-17**]  05:44 AM
                             [**2124-9-18**]  04:15 AM
                             [**2124-9-18**]  04:27 AM
   WBC
   2.6
   2.8
   2.7
   2.7
   Hct
   23.8
   24.6
   27.8
   28.7
   Plt
   52
   76
   61
   35
   Cr
   0.8
   0.9
   0.8
   0.9
   TropT
   0.13
   TCO2
   23
   24
   24
   23
   20
   19
   Glucose
   193
   222
   260
   173
   Other labs: PT / PTT / INR:11.6/31.9/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:74/83, Alk Phos / T Bili:596/7.9,
   Differential-Neuts:85.5 %, Band:0.0 %, Lymph:10.0 %, Mono:4.5 %,
   Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:1.6
   g/dL, LDH:357 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   # Hypotension : Pt. requiring increasing amounts of fluids to keep BPs
   up, resulting in a significantly positive balance.  He is DNR and off
   pressors.  Given this long ICU stay, he is likely to have adrenal
   insufficiency, so will start the patient on stress dose steroids to
   keep BPs elevated.  Will continue treatment with Abx for now
   -Stress dose steroids
   -LR boluses as needed to keep MAP>60 / SBP>90 (use LR given decreased
   bicarb and hyperchloremia and decreased anion gap).
   -Continue Ambisome, Linezolid and Meropenem given continued
   hypothermia, hypotension, radiographic evidence of likely infectious
   process on CXR
   -F/u ID recs
   -Switch from Fentalyl boluses to Fentanyl drip 25-50 mcg/hr for
   sedation
   -F/u CT brain to assess for extension of subdural hematoma
   -F/u CTA chest to evelaute for PE given high risk patient, not on
   anticoagulation due to pancytopenia
   # Aspiration PNA : On a most recent CXR, has an enlarging right-sided
   pleural effusion (possibly due to fluid excess) vs. RLL consolidation
   and increasing builbasilar atelectasis. Most recent episode of
   Polymorphic VTach likely secondary to mucous plugging with volume loss,
   even though the patient did not desat during that episode.  EBV viral
   load negative
   - continue broad coverage with Ambisome, Linezolid, and Meropenem
   - appreciate continued ID recs.
   - trend CXR daily
   -D/c Femoral line today as it is a high source of infection.  Obtain
   PIV access.
   .
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50.   Pt. responded appropriately to
   transfusions yesterday.
   -Continue to trend Hct and Plt closely and transfuse for above goals
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT  recs
   #  Melena
 GVHD vs. stress ulcer; Hct has been stable.
   -Continue to follow HCt [**Hospital1 **]
   - Transfuse pRBCs for Hct < 25 (1 unit pRBCs today)
   # Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome vs
   thrombocytopenia .  Improved with irrigation, but continues to be
   hematuric
   - titrate off CBI
   - continue ambisome at lower dose.
   - replete Plt as above
   .
   # Nutrition
Continue TPN via double lumen PICC.  Will try to get PIV
   for additional access.
   -TPN via double lumen
   -Re-start tube feeds as tolerated via OG tube.  D/c TPN if nutrition
   goals are met with the tube feeds.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2124-9-15**] 05:00 PM 64 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Multi Lumen - [**2124-9-16**] 02:21 AM
   A-line
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (no pressors, no compression) per most recent
   discussion with HCP

2124-09-18 11:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Now off vasopressors.
   No further bradycardia.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-17**] 10:08 PM
   Linezolid - [**2124-9-18**] 04:15 AM
   Meropenem - [**2124-9-18**] 09:51 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-18**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-18**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.2
C (95.4
   HR: 68 (55 - 109) bpm
   BP: 87/48(60) {80/48(58) - 112/70(83)} mmHg
   RR: 14 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  4,656 mL
                                                                    975 mL
   PO:
             TF:
   IVF:
                                                                  2,930 mL
                                                                    905 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    400 mL
                                                                    600 mL
   Urine:
                                                                    400 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,256 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 506 (506 - 517) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/29/95.[**Numeric Identifier 218**]/18/-4
   Ve: 7.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: No(t) Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   35 K/uL
   173 mg/dL
   0.9 mg/dL
   18 mEq/L
   4.1 mEq/L
   74 mg/dL
   111 mEq/L
   138 mEq/L
   28.7 %
   2.7 K/uL
        [image002.jpg]
                            [**2124-9-16**]  01:19 AM
                            [**2124-9-16**]  03:41 AM
                            [**2124-9-16**]  04:26 AM
                            [**2124-9-16**]  02:46 PM
                            [**2124-9-16**]  05:49 PM
                            [**2124-9-16**]  06:31 PM
                             [**2124-9-17**]  05:08 AM
                             [**2124-9-17**]  05:44 AM
                             [**2124-9-18**]  04:15 AM
                             [**2124-9-18**]  04:27 AM
   WBC
   2.6
   2.8
   2.7
   2.7
   Hct
   23.8
   24.6
   27.8
   28.7
   Plt
   52
   76
   61
   35
   Cr
   0.8
   0.9
   0.8
   0.9
   TropT
   0.13
   TCO2
   23
   24
   24
   23
   20
   19
   Glucose
   193
   222
   260
   173
   Other labs: PT / PTT / INR:11.6/31.9/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:74/83, Alk Phos / T Bili:596/7.9,
   Differential-Neuts:85.5 %, Band:0.0 %, Lymph:10.0 %, Mono:4.5 %,
   Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:1.6
   g/dL, LDH:357 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   57 yom CLL (large cell transformation) --> s/p allo SCT in [**2-24**], now
   returns to MICU following PEA arrest.
   RESPIRATORY FAILURE -- Reintubated in context of PEA arrest.  Plan
   continue mechanical ventilation.
   PULMONARY INFILTRATES -- Complete treatment for aspiration pneumonia.
   PEA ARREST -- Repeated.  Unclear precipitant, although concern remains
   aspiration with hypoxemia, acidosis, hypovolemia.  Improved.  No
   further episodes.
   BRADYCARDIA
 Possible vagal etiology.  Monitor HR.
   HYPOTENSION -- attributed in part to infection and to pharmacological
   agents.  Plan continue iv fluid bolus.
   ALTERED MENTAL STATUS -- Attributed to medications, viremia, possible
   hepatic encephalopathy.  Likely contribution of SDH.   Limit
   psychotropic meds if possible.   Unclear whether SDH drainage viable
   option (in context of severe thrombocytopenia).  Monitor.
   GI BLEED -- [**Last Name **] problem, may represent passing of oral bleeding, but at
   risk for PUD, GVHD, or other Gi pathology (at risk while NPO and on
   steroids).  Monitor.  If melena continues, and Hct continues to fall,
   consider GI consultation.
   HEMATURIA -- attributed to foley catheter trauma in setting of
   thrombocytopenia.  Ambisone may precipitate cystitis and bleeding.
   Improved with irrigation.
   A-FIB -- now back in NSR, off amioderone.  Monitor HR.
   CLL --> s/p BMTx, c/b GVHD:   Continue immunosuppressant and
   prophylactic regimens.  Continue cidofovir.
   HYPOGLYCEMIA -- episodic.  Attributed to insulin in TPN, now
   discontinued.  Possible related to ongoing infections.
   FLUIDS -- total body volume hyperexpanded, but intravascular marginal.
   Monitor I/O.
   ANEMIA -- attributed to immunosuppression, and recent blood loss.
   Monitor Hct, transfuse <25.
   THROMBOCYTOPENIA -- attributed to immunosuppression/infection/GVHD.
   Will transfuse for plts <50.
   HTN -- hold anti-HTN meds.  Monitor BP.
   NUTRITIONAL SUPPORT
 continue TPN via PICC.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Arterial Line - [**2124-9-16**] 01:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Extensive discussion with wife.  Updated medical condition and answered
   all questions.  Wife confirms desire to continue current level of care,
   and confirms that current status is DNR/ no CPR in the event of
   recurrent or further clinical decline or cardiac arrest.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2124-9-18**] 18:06 ------

2124-09-18 21:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2124-9-18**] 01:03 AM
   -Required 4+ liters of IVF for hypotension, but continues to sat 100%
   on the vent
   -Started on stress doses of steriods given likely adrenal dysfunction
   -Will receive LR boluses as needed to keep BP up
   -TPN order modified to reduce amt. of acetate pt. receives given
   alkalosis
   -Received PIV x1, allowing femoral CVL to be d/c'd
   -After further discussion with Dr. [**Last Name (STitle) 21**] about goals of care, ordered
   CTA to r/u PE, CT head performed to assess for extension of subdural.
   CT head did not reveal any evidence of a rebleed, however CTA chest
   suboptimal for eval. of PE due to problems with [**Name2 (NI) 11172**] timing on
   multiple attempts.
   -Started on tube feeds, hold TPN for now.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-17**] 10:08 PM
   Meropenem - [**2124-9-18**] 04:00 AM
   Linezolid - [**2124-9-18**] 04:15 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2124-9-17**] 10:30 AM
   Pantoprazole (Protonix) - [**2124-9-17**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-18**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.7
   HR: 63 (55 - 109) bpm
   BP: 93/53(65) {80/49(58) - 114/70(83)} mmHg
   RR: 16 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  4,656 mL
                                                                    738 mL
   PO:
             TF:
   IVF:
                                                                  2,930 mL
                                                                    688 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    400 mL
                                                                    600 mL
   Urine:
                                                                    400 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,256 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 506 (475 - 517) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 37.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/29/95.[**Numeric Identifier 218**]/18/-4
   Ve: 7.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: No acute distress.  Intubated, sedated, no
   responsive to verbal commands.
   Eyes / Conjunctiva: Icteric, edematous sclerae.
   Cardiovascular: RRR. Normal s1, s2. No M/G/R.
   Respiratory / Chest: CTAB.
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: 3+ bilateral lower extremity edema. Warm and
   well-perfused.  Anasarca.
   GU: Foley catheter in place with CBI. Pink urine in bag.
   Labs / Radiology
   35 K/uL
   10.0 g/dL
   173 mg/dL
   0.9 mg/dL
   18 mEq/L
   4.1 mEq/L
   74 mg/dL
   111 mEq/L
   138 mEq/L
   28.7 %
   2.7 K/uL
        [image002.jpg]
                            [**2124-9-16**]  01:19 AM
                            [**2124-9-16**]  03:41 AM
                            [**2124-9-16**]  04:26 AM
                            [**2124-9-16**]  02:46 PM
                            [**2124-9-16**]  05:49 PM
                            [**2124-9-16**]  06:31 PM
                             [**2124-9-17**]  05:08 AM
                             [**2124-9-17**]  05:44 AM
                             [**2124-9-18**]  04:15 AM
                             [**2124-9-18**]  04:27 AM
   WBC
   2.6
   2.8
   2.7
   2.7
   Hct
   23.8
   24.6
   27.8
   28.7
   Plt
   52
   76
   61
   35
   Cr
   0.8
   0.9
   0.8
   0.9
   TropT
   0.13
   TCO2
   23
   24
   24
   23
   20
   19
   Glucose
   193
   222
   260
   173
   Other labs: PT / PTT / INR:11.6/31.9/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:74/83, Alk Phos / T Bili:596/7.9,
   Differential-Neuts:85.5 %, Band:0.0 %, Lymph:10.0 %, Mono:4.5 %,
   Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:1.6
   g/dL, LDH:357 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   # Hypotension/sepsis: Pt. requiring increasing amounts of fluids to
   keep BPs up, resulting in a significantly positive balance.  He is DNR
   and off pressors.  On stress dose-steroids.  Will continue treatment
   with Abx
   -Continue methylprednisolone
   -LR boluses as needed to keep MAP>60 / SBP>90 (use LR given decreased
   bicarb and hyperchloremia and decreased anion gap).
   -Continue Ambisome, Linezolid and Meropenem given continued
   hypothermia, hypotension, radiographic evidence of likely infectious
   process on CXR
   -F/u ID recs
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50.   Pt. responded appropriately to
   transfusions yesterday.
   -Continue to trend Hct and Plt closely and transfuse for above goals
   -Transfuse 2 bags of platelets
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT recs
   #  Melena
 GVHD vs. stress ulcer; Hct has been stable.
   - Continue to follow HCT
   - Transfuse pRBCs for Hct < 25
   # Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome vs
   thrombocytopenia .  Improved with irrigation, but continues to be
   hematuric
   - continue CBI
   - continue ambisome at lower dose.
   - replete Plt as above
   ICU Care
   Nutrition: holding all feeds for now
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   A-line
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: with patient and wife
   [**Name (NI) 36**] status: DNR (no pressors, no compression) per most recent
   discussion with HCP

2124-09-19 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   The patient received  2 bags of platelets  with the appropriate
   response to 117.
   An attempt was made to wean propofol, but the patient appeared
   uncomfortable and there was a risk of him pulling the line.
   TTE performed yesterday, which showed dilated and hypokinetic RV.
   There was nursing concern for anisocoria this AM, but on further
   examination it was determined that the pupils are equal and reactive to
   light.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2124-9-18**] 05:45 PM
   Ambisome - [**2124-9-18**] 10:00 PM
   Meropenem - [**2124-9-19**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-18**] 07:58 AM
   Fentanyl - [**2124-9-18**] 04:03 PM
   Other medications:
   Flowsheet Data as of [**2124-9-19**] 07:16 AM
   Vital Signs
   Hemodynamic monitoring
   Fluid Balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.6
C (96
   HR: 62 (62 - 110) bpm
   BP: 97/58(71) {83/46(58) - 113/69(84)} mmHg
   RR: 14 (0 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  2,529 mL
                                                                    310 mL
   PO:
             TF:
   IVF:
                                                                  1,974 mL
                                                                    310 mL
   Blood products:
                                                                    485 mL
   Total out:
                                                                  1,200 mL
                                                                      0 mL
   Urine:
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,329 mL
                                                                    310 mL
   Respiratory
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/35/94.[**Numeric Identifier 126**]/19/-3
   Ve: 6.1 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: No acute distress.  Intubated, sedated, no
   responsive to verbal commands.  The pt. appears to be posturing.
   Eyes / Conjunctiva: Icteric, edematous sclerae.  Pupils equal 2mm,
   reactive to light.
   Cardiovascular: RRR. Normal s1, s2. No M/G/R.
   Respiratory / Chest: CTAB.
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: 3+ bilateral lower extremity edema. Warm and
   well-perfused.  Anasarca.
   GU: Foley catheter in place with CBI. Pink urine in bag.
   Labs / Radiology
   86 K/uL
   9.1 g/dL
   110 mg/dL
   1.1 mg/dL
   72 mg/dL
   19 mEq/L
   108 mEq/L
   4.2 mEq/L
   136 mEq/L
   25.6 %
   2.9 K/uL
        [image002.jpg]
                                  [**2120-11-18**]
                         2:33 A10/31/[**2123**]  05:49 PM
                                  [**2120-11-22**]
                         10:20 P10/31/[**2123**]  06:31 PM
                                  [**2120-11-23**]
                          1:20 P11/1/[**2123**]  05:08 AM
                                  [**2120-11-24**]
                         11:50 P11/1/[**2123**]  05:44 AM
                                  [**2120-11-25**]
                          1:20 A11/2/[**2123**]  04:15 AM
                                  [**2120-11-26**]
                          7:20 P11/2/[**2123**]  04:27 AM
                                  1//11/006
                          1:23 P11/2/[**2123**]  02:03 PM
                                  [**2120-12-19**]
                          1:20 P11/2/[**2123**]  04:37 PM
                                  [**2120-12-19**]
                         11:20 P11/3/[**2123**]  03:39 AM
                                  [**2120-12-19**]
                          4:20 P11/3/[**2123**]  03:51 AM
   WBC
                                     2.8
                                     2.7
                                     2.7
                                     3.3
                                     2.9
   Hct
                                    24.6
                                    27.8
                                    28.7
                                    26.6
                                    25.6
   Plt
                                     76
                                     61
                                     35
                                     117
                                     86
   Cr
                                     0.9
                                     0.8
                                     0.9
                                     1.1
   TC02
                                     23
                                     20
                                     19
                                     21
                                     21
   Glucose
                                     222
                                     260
                                     173
                                     110
   Other labs: PT / PTT / INR:11.6/31.9/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:64/84, Alk Phos / T Bili:595/7.2,
   Differential-Neuts:85.5 %, Band:0.0 %, Lymph:10.0 %, Mono:4.5 %,
   Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.1
   g/dL, LDH:325 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   # Hypotension/sepsis: Pt. requiring increasing amounts of fluids to
   keep BPs up, resulting in a significantly positive balance.  He is DNR
   and off pressors.  On stress dose-steroids.  Will continue treatment
   with Abx.  Given new neurological findings on exam, will evaluate for
   possible subdural re-bleed and seizure activity.
   -Continue methylprednisolone
   -LR boluses as needed to keep MAP>60 / SBP>90 (use LR given decreased
   bicarb and hyperchloremia and decreased anion gap).
   -Continue Ambisome, Linezolid and Meropenem given continued
   hypothermia, hypotension, radiographic evidence of likely infectious
   process on CXR.  Discuss with ID antibiotic courses.
   -F/u ID recs
   -Increase Haldol dose to 1mg q6hours in order to attempt to wean off
   Propofol given hypotension
   -F/u EKG to assess QTc given Haldol
   -F/u B-Glucan (last value >500 on [**2124-9-14**])
   -F/u fungal blood culture
   -f/u NCHCT
   -Re-consult Neuro re: seizure activity
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50.   Pt. responded appropriately to
   transfusions yesterday.
   -Continue to trend Hct and Plt closely and transfuse for above goals
   - f/u PM Hct given Hct continuing to slowly trend down
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT recs
   #  Melena
 GVHD vs. stress ulcer; Hct has been slowly trending down.
   - Continue to follow HCT [**Hospital1 **]
   - Transfuse pRBCs for Hct < 25
   # Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome vs
   thrombocytopenia .  Improved with irrigation, but continues to be
   hematuric
   - continue CBI
   - continue ambisome at lower dose.
   ICU Care
   Nutrition: re-start feeds for now and follow residual
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   A-line
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: with patient and wife
   [**Name (NI) 36**] status: DNR (no pressors, no compression) per most recent
   discussion with HCP

2124-09-19 12:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanical ventilation.
   Remains sedated.
   Observed to exhibit left facial twitching, flexion posturing of upper
   arms.
   Remains hypothermic.
   No further bradycardia.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, ETT
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2124-9-18**] 05:45 PM
   Ambisome - [**2124-9-18**] 10:00 PM
   Meropenem - [**2124-9-19**] 10:13 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2124-9-18**] 04:03 PM
   Pantoprazole (Protonix) - [**2124-9-19**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-19**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 34.3
C (93.7
   HR: 58 (58 - 110) bpm
   BP: 90/53(66) {83/46(58) - 113/69(84)} mmHg
   RR: 14 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  2,529 mL
                                                                    582 mL
   PO:
             TF:
   IVF:
                                                                  1,974 mL
                                                                    532 mL
   Blood products:
                                                                    485 mL
   Total out:
                                                                  1,200 mL
                                                                    900 mL
   Urine:
                                                                  1,200 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,329 mL
                                                                   -318 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/35/94.[**Numeric Identifier 126**]/19/-3
   Ve: 5.4 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   86 K/uL
   110 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.2 mEq/L
   72 mg/dL
   108 mEq/L
   136 mEq/L
   25.6 %
   2.9 K/uL
        [image002.jpg]
                            [**2124-9-16**]  05:49 PM
                            [**2124-9-16**]  06:31 PM
                             [**2124-9-17**]  05:08 AM
                             [**2124-9-17**]  05:44 AM
                             [**2124-9-18**]  04:15 AM
                             [**2124-9-18**]  04:27 AM
                             [**2124-9-18**]  02:03 PM
                             [**2124-9-18**]  04:37 PM
                             [**2124-9-19**]  03:39 AM
                             [**2124-9-19**]  03:51 AM
   WBC
   2.8
   2.7
   2.7
   3.3
   2.9
   Hct
   24.6
   27.8
   28.7
   26.6
   25.6
   Plt
   76
   61
   35
   117
   86
   Cr
   0.9
   0.8
   0.9
   1.1
   TCO2
   23
   20
   19
   21
   21
   Glucose
   222
   260
   173
   110
   Other labs: PT / PTT / INR:11.6/31.9/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:64/84, Alk Phos / T Bili:595/7.2,
   Differential-Neuts:85.5 %, Band:0.0 %, Lymph:10.0 %, Mono:4.5 %,
   Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.1
   g/dL, LDH:325 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   57 yom CLL (large cell transformation) --> s/p allo SCT in [**2-24**], now
   returns to MICU following PEA arrest.
   RESPIRATORY FAILURE -- Reintubated in context of PEA arrest.  Plan
   continue mechanical ventilation.  Suspect poor candidate to work
   towards repeat extubation trial in setting of markedly abnormal mental
   status.
   PULMONARY INFILTRATES -- Completed treatment for aspiration pneumonia.
   Would encourage discontinue select antimicrobials.
   PEA ARREST -- Repeated.  Unclear precipitant, although concern remains
   aspiration with hypoxemia, acidosis, hypovolemia.  Improved.  No
   further episodes.
   BRADYCARDIA
 Possible vagal etiology.  Monitor HR.
   HYPOTENSION -- attributed in part to infection and to pharmacological
   agents.  Plan continue iv fluid bolus.
   ALTERED MENTAL STATUS -- Attributed to medications, viremia, possible
   hepatic encephalopathy.  Likely contribution of SDH.   Limit
   psychotropic meds if possible.   Unclear whether SDH drainage viable
   option (in context of severe thrombocytopenia).  Monitor.
   FACIAL TWITCHING -- unclear etiology, but concerns include
   toxic-metabolic derrangement, or seizure.  In context of altered mental
   status, would consider repeat head CT and check EEG.  Discuss with
   Neurology service.
   ELEVATED b-GLUCAN -- concern for ongoing fungal infection.  Continue
   antifungals.  Await g-glactomannan.
   GI BLEED -- [**Last Name **] problem, may represent passing of oral bleeding, but at
   risk for PUD, GVHD, or other Gi pathology (at risk while NPO and on
   steroids).  Monitor.  If melena continues, and Hct continues to fall,
   consider GI consultation.
   HEMATURIA -- attributed to foley catheter trauma in setting of
   thrombocytopenia.  Ambisone may precipitate cystitis and bleeding.
   Improved with irrigation.
   A-FIB -- now back in NSR, off amioderone.  Monitor HR.
   CLL --> s/p BMTx, c/b GVHD:   Continue immunosuppressant and
   prophylactic regimens.  Continue cidofovir.
   HYPOGLYCEMIA -- episodic.  Attributed to insulin in TPN, now
   discontinued.  Possible related to ongoing infections.
   FLUIDS -- total body volume hyperexpanded, but intravascular marginal.
   Monitor I/O.
   ANEMIA -- attributed to immunosuppression, and recent blood loss.
   Monitor Hct, transfuse <25.
   THROMBOCYTOPENIA -- attributed to immunosuppression/infection/GVHD.
   Will transfuse for plts <50.
   HTN -- hold anti-HTN meds.  Monitor BP.
   NUTRITIONAL SUPPORT
 desire resuming TF via OGT.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Arterial Line - [**2124-9-16**] 01:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-20 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Decreased RR to 10 yesterday, pt. overbreathing more on the vent
   -The patient got head CT to evaluate for subdural re-bleed: no evidence
   of new re-bleed, final read pending)
   -Per BMT recs, added pyrimethium and leucovorin and clinda for empiric
   treatment of Toxoplasmosis (already on [**Last Name (un) 614**], ambisome, linezolid)
   This AM, the pateient appears more comfortable, no spontaneous head
   movements.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-19**] 10:00 PM
   Meropenem - [**2124-9-20**] 12:53 AM
   Linezolid - [**2124-9-20**] 03:58 AM
   Clindamycin - [**2124-9-20**] 06:33 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-19**] 07:50 AM
   Haloperidol (Haldol) - [**2124-9-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-20**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 101 (58 - 102) bpm
   BP: 111/70(84) {88/53(65) - 111/71(86)} mmHg
   RR: 15 (0 - 15) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  1,873 mL
                                                                    773 mL
   PO:
             TF:
                                                                     80 mL
                                                                     97 mL
   IVF:
                                                                  1,713 mL
                                                                    676 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    900 mL
   Urine:
                                                                    900 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                   -127 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/39/154/19/-6
   Ve: 7.6 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: No acute distress.  Intubated, sedated, no
   responsive to verbal commands.  The pt. appears to be posturing.
   Eyes / Conjunctiva: Icteric, edematous sclerae.  Pupils equal 2mm,
   reactive to light.
   Cardiovascular: RRR. Normal s1, s2. No M/G/R.
   Respiratory / Chest: CTAB.
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: 3+ bilateral lower extremity edema. Warm and
   well-perfused.  Anasarca.
   GU: Foley catheter in place with CBI. Pink urine in bag.
   Labs / Radiology
   63 K/uL
   9.1 g/dL
   131 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.1 mEq/L
   68 mg/dL
   108 mEq/L
   130 mEq/L
   25.9 %
   3.1 K/uL
        [image002.jpg]
                             [**2124-9-18**]  04:15 AM
                             [**2124-9-18**]  04:27 AM
                             [**2124-9-18**]  02:03 PM
                             [**2124-9-18**]  04:37 PM
                             [**2124-9-19**]  03:39 AM
                             [**2124-9-19**]  03:51 AM
                             [**2124-9-19**]  02:51 PM
                             [**2124-9-19**]  03:01 PM
                             [**2124-9-20**]  03:37 AM
                             [**2124-9-20**]  03:59 AM
   WBC
   2.7
   3.3
   2.9
   2.5
   3.1
   Hct
   28.7
   26.6
   25.6
   26.0
   25.9
   Plt
   35
   117
   86
   78
   63
   Cr
   0.9
   1.1
   1.0
   TCO2
   19
   21
   21
   21
   21
   Glucose
   173
   110
   131
   Other labs: PT / PTT / INR:11.6/31.9/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:64/84, Alk Phos / T Bili:595/7.2,
   Differential-Neuts:82.0 %, Band:0.0 %, Lymph:16.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.1
   g/dL, LDH:325 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   # Hypotension/sepsis: Pt. requiring increasing amounts of fluids to
   keep BPs up, resulting in a significantly positive balance.  He is DNR
   and off pressors.  On stress dose-steroids.  Will continue treatment
   with Abx.
   -Continue methylprednisolone
   -LR boluses as needed to keep MAP>60 / SBP>90 (use LR given decreased
   bicarb and hyperchloremia and decreased anion gap).
   -Continue Ambisome, Linezolid and Meropenem given continued
   hypothermia, hypotension.
   -Continue treatment for Tooplasmosis with Pyrimethium, Leucovorin,
   Clindamycin.
   -F/u ID recs, BMT recs.
   -Continue Haldol dose to 1mg q6hours and start low dose Zydis in order
   to attempt to wean off Propofol given hypotension
   -F/u EKG to assess QTc given Haldol
   -F/u B-Glucan (last value >500 on [**2124-9-14**])
   -F/u fungal blood culture
   -f/u NCHCT final read
   -Per Neuro recs, MRI of head to look for anoxic brain injury,
   infectious etilogy, white matter changes associated with BK viremia,
   etc to help with management and prognosis.
   -EEG to r/u status epilepticus
   -A trial of PS 5/5 ventilation.
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50.
   -Continue to trend Hct and Plt closely and transfuse for above goals
   - f/u PM Hct given Hct and Plt continuing to slowly trend down
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT recs
   #  Melena
 GVHD vs. stress ulcer; Hct has been slowly trending down.
   - Continue to follow HCT [**Hospital1 **]
   - Transfuse pRBCs for Hct < 25
   # Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome vs
   thrombocytopenia .  Improved with irrigation, but continues to be
   hematuric
   - continue CBI.
   ICU Care
   Nutrition: continue feeds for now and follow residual
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   A-line
   Prophylaxis:
   DVT: None
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: with patient and wife
   [**Name (NI) 36**] status: DNR (no pressors, no compression) per most recent
   discussion with HCP

2124-09-20 12:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains sedated.
   Remains on warming blanket.
   Anti-Toxoplasmosis treatment initiated empirically.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy, ETT
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-19**] 10:00 PM
   Linezolid - [**2124-9-20**] 03:58 AM
   Clindamycin - [**2124-9-20**] 06:33 AM
   Meropenem - [**2124-9-20**] 08:43 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2124-9-20**] 12:00 AM
   Pantoprazole (Protonix) - [**2124-9-20**] 08:43 AM
   Fentanyl - [**2124-9-20**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss,
   Hypothermia
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-20**] 12:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 89 (72 - 102) bpm
   BP: 96/58(71) {89/54(67) - 111/71(86)} mmHg
   RR: 11 (0 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  1,873 mL
                                                                  1,134 mL
   PO:
             TF:
                                                                     80 mL
                                                                    206 mL
   IVF:
                                                                  1,713 mL
                                                                    927 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    900 mL
   Urine:
                                                                    900 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                    234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/39/154/19/-6
   Ve: 5.9 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   63 K/uL
   131 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.1 mEq/L
   68 mg/dL
   108 mEq/L
   130 mEq/L
   25.9 %
   3.1 K/uL
        [image002.jpg]
                             [**2124-9-18**]  04:15 AM
                             [**2124-9-18**]  04:27 AM
                             [**2124-9-18**]  02:03 PM
                             [**2124-9-18**]  04:37 PM
                             [**2124-9-19**]  03:39 AM
                             [**2124-9-19**]  03:51 AM
                             [**2124-9-19**]  02:51 PM
                             [**2124-9-19**]  03:01 PM
                             [**2124-9-20**]  03:37 AM
                             [**2124-9-20**]  03:59 AM
   WBC
   2.7
   3.3
   2.9
   2.5
   3.1
   Hct
   28.7
   26.6
   25.6
   26.0
   25.9
   Plt
   35
   117
   86
   78
   63
   Cr
   0.9
   1.1
   1.0
   TCO2
   19
   21
   21
   21
   21
   Glucose
   173
   110
   131
   Other labs: PT / PTT / INR:11.6/31.9/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:64/84, Alk Phos / T Bili:595/7.2,
   Differential-Neuts:82.0 %, Band:0.0 %, Lymph:16.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.1
   g/dL, LDH:325 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   57 yom CLL (large cell transformation) --> s/p allo SCT in [**2-24**], now
   returns to MICU following PEA arrest.
   RESPIRATORY FAILURE -- Reintubated in context of PEA arrest.  Plan
   continue mechanical ventilation.  Suspect poor candidate to work
   towards repeat extubation trial in setting of markedly abnormal mental
   status.
   PULMONARY INFILTRATES -- Completed treatment for aspiration pneumonia.
   Would encourage discontinue select antimicrobials.
   PEA ARREST -- Repeated.  Unclear precipitant, although concern remains
   aspiration with hypoxemia, acidosis, hypovolemia.  Improved.  No
   further episodes.
   BRADYCARDIA
 Possible vagal etiology.  Monitor HR.
   HYPOTENSION -- attributed in part to infection and to pharmacological
   agents.  Plan continue iv fluid bolus.
   ALTERED MENTAL STATUS -- Attributed to medications, viremia, possible
   hepatic encephalopathy.  Likely contribution of SDH --> no evidence for
   progression of SDH.   Limit psychotropic meds if possible.   Unclear
   whether SDH drainage viable option (in context of severe
   thrombocytopenia).  Monitor.  Consider EEG (assess for status
   epilepticus) and head MRI (assess for anoxic brain injury) to further
   evaluate neurological status.
   FACIAL TWITCHING -- unclear etiology, but concerns include
   toxic-metabolic derrangement, or seizure.  In context of altered mental
   status, would consider repeat head CT and check EEG.  Discuss with
   Neurology service.
   ELEVATED b-GLUCAN -- concern for ongoing fungal infection.  Continue
   antifungals.  Await g-glactomannan.
   GI BLEED -- [**Last Name **] problem, may represent passing of oral bleeding, but at
   risk for PUD, GVHD, or other Gi pathology (at risk while NPO and on
   steroids).  Monitor.  If melena continues, and Hct continues to fall,
   consider GI consultation.
   HEMATURIA -- attributed to foley catheter trauma in setting of
   thrombocytopenia.  Ambisone may precipitate cystitis and bleeding.
   Improved with irrigation.
   A-FIB -- now back in NSR, off amioderone.  Monitor HR.
   CLL --> s/p BMTx, c/b GVHD:   Continue immunosuppressant and
   prophylactic regimens.  Continue cidofovir.
   HYPOGLYCEMIA -- episodic.  Attributed to insulin in TPN, now
   discontinued.  Possible related to ongoing infections.
   FLUIDS -- total body volume hyperexpanded, but intravascular marginal.
   Monitor I/O.
   ANEMIA -- attributed to immunosuppression, and recent blood loss.
   Monitor Hct, transfuse <25.
   THROMBOCYTOPENIA -- attributed to immunosuppression/infection/GVHD.
   Will transfuse for plts <50.
   HTN -- hold anti-HTN meds.  Monitor BP.
   NUTRITIONAL SUPPORT
 desire resuming TF via OGT.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2124-9-20**] 07:50 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Arterial Line - [**2124-9-16**] 01:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-21 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2124-9-20**] 06:09 PM
   returned to floor [**2114**]
   - Got MRI, results pending
   - Voriconazole dose increased to 400mg Q24h
   - Neurology again strongly argued against EEG (they believe the patient
   made purposeful movements to grab his tube when off Propofol, had all
   brain stem reflexes, except for gag).  Said will show nothing but slow
   brain waves on Propofol. Recommended MRI to look for evidence of anoxic
   brain injury vs. evidence of infection vs. white matter changed
   associated with BK viremia.  Also suggested repeating ammonia levels
   again.
   -This PM, noted to have melonic stools with clots and also blood clots
   in residual.  Tube feeds were d/c'd, Hct was checked STAT.
   -Nurse noted the patient to be very uncomfortable after MRI, may need
   to go up on Propafol.
   -Gave 2 units Platelets this AM for Plt 44.
   -ABG 7.28/42/135/21/-6
   Ammonia 92, Na 132 this AM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-20**] 10:00 PM
   Meropenem - [**2124-9-21**] 02:00 AM
   Linezolid - [**2124-9-21**] 04:00 AM
   Clindamycin - [**2124-9-21**] 05:58 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-20**] 08:43 AM
   Fentanyl - [**2124-9-21**] 12:15 AM
   Propofol - [**2124-9-21**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-21**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.4
C (95.8
   HR: 76 (71 - 102) bpm
   BP: 104/67(80) {89/54(66) - 116/78(92)} mmHg
   RR: 8 (3 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  2,293 mL
                                                                    881 mL
   PO:
             TF:
                                                                    710 mL
   IVF:
                                                                  1,583 mL
                                                                    881 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    450 mL
   Urine:
                                                                  2,500 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    300 mL
                                                                    450 mL
   Drains:
   Balance:
                                                                   -607 mL
                                                                    431 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: 7.28/42/135/23/-6
   Ve: 4.5 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: No acute distress.  Intubated, sedated, no
   responsive to verbal commands.  The pt. appears to be posturing.
   Eyes / Conjunctiva: Icteric, edematous sclerae.  Pupils equal 2mm,
   reactive to light.
   Cardiovascular: RRR. Normal s1, s2. No M/G/R.
   Respiratory / Chest: CTAB.
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: 3+ bilateral lower extremity edema. Warm and
   well-perfused.  Anasarca.
   GU: Foley catheter in place with CBI. Pink urine in bag.
   Labs / Radiology
   44 K/uL
   9.0 g/dL
   156
   1.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   64 mg/dL
   108 mEq/L
   132 mEq/L
   26.4 %
   3.7 K/uL
        [image002.jpg]
                             [**2124-9-19**]  02:51 PM
                             [**2124-9-19**]  03:01 PM
                             [**2124-9-20**]  03:37 AM
                             [**2124-9-20**]  03:59 AM
                             [**2124-9-20**]  05:23 PM
                             [**2124-9-20**]  11:04 PM
                             [**2124-9-21**]  12:00 AM
                             [**2124-9-21**]  03:46 AM
                             [**2124-9-21**]  04:24 AM
                             [**2124-9-21**]  06:00 AM
   WBC
   2.5
   3.1
   3.1
   3.7
   Hct
   26.0
   25.9
   26.3
   25.5
   26.4
   Plt
   78
   63
   63
   44
   Cr
   1.0
   1.1
   TCO2
   21
   21
   21
   Glucose
   131
   283
   148
   156
   Other labs: PT / PTT / INR:11.6/31.9/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:64/84, Alk Phos / T Bili:595/7.2,
   Differential-Neuts:82.0 %, Band:0.0 %, Lymph:16.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.1
   g/dL, LDH:325 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   # Hypotension/sepsis: Pt. requiring increasing amounts of fluids to
   keep BPs up, resulting in a significantly positive balance.  He is DNR
   and off pressors.  On stress dose-steroids.  Will continue treatment
   with Abx.
   -Continue methylprednisolone
   -LR boluses as needed to keep MAP>60 / SBP>90 (use LR given decreased
   bicarb and hyperchloremia and decreased anion gap).
   -Continue Ambisome, Linezolid and Meropenem given continued
   hypothermia, hypotension.
   -Continue treatment for Tooplasmosis with Pyrimethium, Leucovorin,
   Clindamycin.
   -F/u ID recs, BMT recs.
   -Continue Haldol dose to 1mg q6hours and start low dose Zydis in order
   to attempt to wean off Propofol given hypotension
   -F/u EKG to assess QTc given Haldol
   -F/u B-Glucan (last value >500 on [**2124-9-14**])
   -F/u fungal blood culture
   -f/u NCHCT final read
   -Per Neuro recs, MRI of head to look for anoxic brain injury,
   infectious etilogy, white matter changes associated with BK viremia,
   etc to help with management and prognosis.
   -EEG to r/u status epilepticus
   -A trial of PS 5/5 ventilation.
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50.
   -Continue to trend Hct and Plt closely and transfuse for above goals
   - f/u PM Hct given Hct and Plt continuing to slowly trend down
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT recs
   #  Melena
 GVHD vs. stress ulcer; Hct has been slowly trending down.
   - Continue to follow HCT [**Hospital1 **]
   - Transfuse pRBCs for Hct < 25
   # Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome vs
   thrombocytopenia .  Improved with irrigation, but continues to be
   hematuric
   - continue CBI.
   ICU Care
   Nutrition: continue feeds for now and follow residual
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   A-line
   Prophylaxis:
   DVT: None
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: with patient and wife
   [**Name (NI) 36**] status: DNR (no pressors, no compression) per most recent
   discussion with HCP
   Dispo : To ICU

2124-09-21 10:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Recurrence of melena this AM, x3.  No hemodynamic compromise.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive, ETT
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-20**] 10:00 PM
   Meropenem - [**2124-9-21**] 02:00 AM
   Linezolid - [**2124-9-21**] 04:00 AM
   Clindamycin - [**2124-9-21**] 05:58 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2124-9-21**] 12:15 AM
   Propofol - [**2124-9-21**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, melena
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis, Foley irrigation
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-21**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.3
C (95.5
   HR: 78 (71 - 102) bpm
   BP: 91/55(68) {89/54(66) - 116/78(92)} mmHg
   RR: 7 (3 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
           Total In:
                                                                  2,293 mL
                                                                    993 mL
   PO:
           TF:
                                                                    710 mL
   IVF:
                                                                  1,583 mL
                                                                    974 mL
   Blood products:
   19 mL
   Total out:
                                                                  2,900 mL
                                                                    450 mL
   Urine:
                                                                  2,500 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    300 mL
                                                                    450 mL
   Drains:
   Balance:
                                                                   -607 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.28/42/135/23/-6
   Ve: 7.2 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Purposeful arm
   movement, Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   44 K/uL
   156
   1.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   64 mg/dL
   108 mEq/L
   132 mEq/L
   26.4 %
   3.7 K/uL
        [image002.jpg]
                             [**2124-9-19**]  02:51 PM
                             [**2124-9-19**]  03:01 PM
                             [**2124-9-20**]  03:37 AM
                             [**2124-9-20**]  03:59 AM
                             [**2124-9-20**]  05:23 PM
                             [**2124-9-20**]  11:04 PM
                             [**2124-9-21**]  12:00 AM
                             [**2124-9-21**]  03:46 AM
                             [**2124-9-21**]  04:24 AM
                             [**2124-9-21**]  06:00 AM
   WBC
   2.5
   3.1
   3.1
   3.7
   Hct
   26.0
   25.9
   26.3
   25.5
   26.4
   Plt
   78
   63
   63
   44
   Cr
   1.0
   1.1
   TCO2
   21
   21
   21
   Glucose
   131
   283
   148
   156
   Other labs: PT / PTT / INR:11.6/31.9/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:64/84, Alk Phos / T Bili:595/7.2,
   Differential-Neuts:82.0 %, Band:0.0 %, Lymph:16.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.1
   g/dL, LDH:325 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   57 yom CLL (large cell transformation) --> s/p allo SCT in [**2-24**], now
   returns to MICU following PEA arrest.
   RESPIRATORY FAILURE -- Reintubated in context of PEA arrest.  Plan
   continue mechanical ventilation.  Suspect poor candidate to work
   towards repeat extubation trial in setting of markedly abnormal mental
   status.  Would assess for tracheostomy, and discuss options with wife.
   PULMONARY INFILTRATES -- Completed treatment for aspiration pneumonia.
   Would encourage discontinue select antimicrobials.
   PEA ARREST -- Repeated.  Unclear precipitant, although concern remains
   aspiration with hypoxemia, acidosis, hypovolemia.  Improved.  No
   further episodes.
   BRADYCARDIA
 Possible vagal etiology.  Monitor HR.
   ALTERED MENTAL STATUS -- Attributed to medications, viremia, possible
   hepatic encephalopathy.  Likely contribution of SDH --> no evidence for
   progression of SDH.   Current head MRI demonstrates bilateral frontal
   hygromas, perhaps expanding --> Limit psychotropic meds if possible.
   Unclear whether SDH drainage viable option (in context of severe
   thrombocytopenia).  Monitor.  Elevated NH3.  Consider EEG (assess for
   status epilepticus) and head MRI (assess for anoxic brain injury) to
   further evaluate neurological status.  Neurosurgical consultation RE:
   management of SDH and expanding hygroma.
   FACIAL TWITCHING -- Transient, and resolved.  Unclear etiology, but
   concerns include toxic-metabolic derrangement, or seizure.  [**Month (only) 51**] be
   attributed to Propofol.  Await EEG.
   ELEVATED NH3
 desire to treat with lactulose, but hold while
   evaluating for GI bleed.  Monitor NH3, LFTs.
   ELEVATED b-GLUCAN -- concern for ongoing fungal infection.  Continue
   antifungals.  Await g-glactomannan.
   GI BLEED -- Recurrent problem, may represent passing of oral bleeding,
   but at risk for PUD, GVHD, or other Gi pathology (at risk while NPO and
   on steroids).  Monitor.  If melena continues, and Hct continues to
   fall, consider GI consultation.
   ANEMIA -- attributed to immunosuppression, and recent blood loss.
   Monitor Hct, transfuse <25.
   THROMBOCYTOPENIA -- attributed to immunosuppression/infection/GVHD.
   Will transfuse for plts <50.
   FLUIDS -- total body volume hyperexpanded, but intravascular marginal.
   Desure net negative fluid balance.  Monitor I/O.
   HEMATURIA -- attributed to foley catheter trauma in setting of
   thrombocytopenia.  Ambisone may precipitate cystitis and bleeding.
   Improved with irrigation.
   A-FIB -- now back in NSR, off amioderone.  Monitor HR.
   CLL --> s/p BMTx, c/b GVHD:   Continue immunosuppressant and
   prophylactic regimens.  Continue cidofovir.
   HTN -- hold anti-HTN meds.  Monitor BP.
   NUTRITIONAL SUPPORT
 desire resuming TF via OGT.  Consider PEG if
   trach is placed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Arterial Line - [**2124-9-16**] 01:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:  Family Meeting with wife.  Updated medical
   conditon.  Answered all questions.  Confirmed no CPR, no central line,
   no vasopressors.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-21 22:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Got MRI, shows enlarged frontal hygromas
   - Voriconazole dose increased to 400mg Q24h
   - Neurology again strongly argued against EEG (they believe the patient
   made purposeful movements to grab his tube when off Propofol, had all
   brain stem reflexes, except for gag).  Said will show nothing but slow
   brain waves on Propofol. Recommended MRI to look for evidence of anoxic
   brain injury vs. evidence of infection vs. white matter changed
   associated with BK viremia.  Also suggested repeating ammonia levels
   again.
   -This PM, noted to have melanotic stools with clots and also blood
   clots in residual.  Tube feeds were d/c'd, Hct was checked STAT.
   -Gave 2 units Platelets in AM for [**2124-9-21**] for Plt 44.
   -Ammonia 92, Na 132 this AM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-20**] 10:00 PM
   Meropenem - [**2124-9-21**] 02:00 AM
   Linezolid - [**2124-9-21**] 04:00 AM
   Clindamycin - [**2124-9-21**] 05:58 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-20**] 08:43 AM
   Fentanyl - [**2124-9-21**] 12:15 AM
   Propofol - [**2124-9-21**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-21**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.4
C (95.8
   HR: 76 (71 - 102) bpm
   BP: 104/67(80) {89/54(66) - 116/78(92)} mmHg
   RR: 8 (3 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  2,293 mL
                                                                    881 mL
   PO:
             TF:
                                                                    710 mL
   IVF:
                                                                  1,583 mL
                                                                    881 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    450 mL
   Urine:
                                                                  2,500 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    300 mL
                                                                    450 mL
   Drains:
   Balance:
                                                                   -607 mL
                                                                    431 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: 7.28/42/135/23/-6
   Ve: 4.5 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: No acute distress.  Intubated, sedated, no
   responsive to verbal commands.
   Eyes / Conjunctiva: Icteric, edematous sclerae.  Pupils equal 2mm,
   reactive to light.
   Cardiovascular: RRR. Normal s1, s2. No M/G/R.
   Respiratory / Chest: CTAB.
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: 3+ bilateral lower extremity edema. Warm and
   well-perfused.  Anasarca.
   GU: Foley catheter in place with CBI. Pink urine in bag.
   Labs / Radiology
   44 K/uL
   9.0 g/dL
   156
   1.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   64 mg/dL
   108 mEq/L
   132 mEq/L
   26.4 %
   3.7 K/uL
        [image002.jpg]
                             [**2124-9-19**]  02:51 PM
                             [**2124-9-19**]  03:01 PM
                             [**2124-9-20**]  03:37 AM
                             [**2124-9-20**]  03:59 AM
                             [**2124-9-20**]  05:23 PM
                             [**2124-9-20**]  11:04 PM
                             [**2124-9-21**]  12:00 AM
                             [**2124-9-21**]  03:46 AM
                             [**2124-9-21**]  04:24 AM
                             [**2124-9-21**]  06:00 AM
   WBC
   2.5
   3.1
   3.1
   3.7
   Hct
   26.0
   25.9
   26.3
   25.5
   26.4
   Plt
   78
   63
   63
   44
   Cr
   1.0
   1.1
   TCO2
   21
   21
   21
   Glucose
   131
   283
   148
   156
   Other labs: PT / PTT / INR:11.6/31.9/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:64/84, Alk Phos / T Bili:595/7.2,
   Differential-Neuts:82.0 %, Band:0.0 %, Lymph:16.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.1
   g/dL, LDH:325 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   # Hypotension/sepsis: Pt. requiring increasing amounts of fluids to
   keep BPs up, resulting in a significantly positive balance.  He is DNR
   and off pressors.  On stress dose-steroids.  Will continue treatment
   with Abx.
   -Continue methylprednisolone
   -LR boluses as needed to keep MAP>60 / SBP>90 (use LR given decreased
   bicarb and hyperchloremia and decreased anion gap).
   -Continue Ambisome, Linezolid and Meropenem given continued
   hypothermia, hypotension.
   -Continue treatment for Toxoplasmosis with Pyrimethium, Leucovorin,
   Clindamycin.
   -F/u ID recs, BMT recs.
   -Continue Haldol dose to 1mg q6hours and start low dose Zydis in order
   to attempt to wean off Propofol given hypotension
   -F/u pending microbiologic studies
   .
   # Altered mental status: MRI shows stable subdurals with no acute
   infarcts. There was a question of expanding subdural hygromas.
   -EEG to r/u status epilepticus
   -f/u neuro recs
   -neurosurgery consult for ? of expanding frontal hygromas
   .
   # Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50.
   -Continue to trend Hct and Plt closely and transfuse for above goals
   .
   # CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT recs
   #  Melena
 Now with new melena.  Has had GVHD and stress ulcer in
   past.
   - Trend Hct Q8H
   - Transfuse pRBCs for Hct < 25
   # Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome vs
   thrombocytopenia .  Improved with irrigation, but continues to be
   hematuric
   - continue CBI.
   ICU Care
   Nutrition: hold tube fees in the setting of melena
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   A-line
   Prophylaxis:
   DVT: None
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: with patient and wife
   [**Name (NI) 36**] status: DNR (no pressors, no compression) per most recent
   discussion with HCP
   Dispo : To ICU

2124-09-22 07:30:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PHYSICIAN PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   - Remains intubated, mechanically ventilated. No change in neuro
   status. EEG w/o seizure focus (diffuse encephalopathy) Neuro signed
   off. Neurosurgery- no procedure rec
d at time d/t significant surgical
   risks outweighing benefits
   - MRI no acute process, stable SDH
   - melanotic stools continue, along with blood in gastric residuals
   - transfused 1 unit PRBC for Hct 23.3 at 10:43 p.m.
   - cross-matched for additional 2 units
   Allergies:
   Bactrim (Oral) Rash;
   Last dose of Antibiotics:
   Linezolid - [**2124-9-21**] 04:00 AM
   Ambisome - [**2124-9-21**] 10:05 PM
   Meropenem - [**2124-9-22**] 04:00 AM
   Clindamycin - [**2124-9-22**] 06:51 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2124-9-22**] 02:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-22**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 80 (77 - 94) bpm
   BP: 96/59(73) {85/48(62) - 117/86(99)} mmHg
   RR: 5 (0 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
           Total In:
                                                                  2,437 mL
                                                                    857 mL
   PO:
           TF:
   IVF:
                                                                  1,999 mL
                                                                    507 mL
   Blood products:
                                                                    388 mL
                                                                    350 mL
   Total out:
                                                                  1,950 mL
                                                                  1,800 mL
   Urine:
                                                                  1,500 mL
                                                                  1,800 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                    487 mL
                                                                   -943 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.32/45/125/22/-3
   Ve: 4.3 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: No acute distress.  Intubated, sedated, no
   responsive to verbal commands.
   Eyes / Conjunctiva: Icteric, edematous sclerae.  Pupils equal 2mm,
   reactive to light.
   Cardiovascular: RRR. Normal s1, s2. No M/G/R.
   Respiratory / Chest: CTAB.
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: 3+ bilateral lower extremity edema. Warm and
   well-perfused.  Anasarca.
   GU: Foley catheter in place with CBI. Pink urine in bag.
   Labs / Radiology
   91 K/uL
   9.7 g/dL
   108 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.8 mEq/L
   59 mg/dL
   102 mEq/L
   132 mEq/L
   28.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2124-9-21**]  12:00 AM
                             [**2124-9-21**]  03:46 AM
                             [**2124-9-21**]  04:24 AM
                             [**2124-9-21**]  06:00 AM
                             [**2124-9-21**]  11:56 AM
                             [**2124-9-21**]  05:26 PM
                             [**2124-9-21**]  05:57 PM
                             [**2124-9-21**]  10:43 PM
                             [**2124-9-22**]  03:53 AM
                             [**2124-9-22**]  04:24 AM
   WBC
   3.7
   4.1
   3.8
   3.0
   4.1
   Hct
   26.4
   26.0
   24.5
   23.3
   28.1
   Plt
   44
   118
   96
   97
   91
   Cr
   1.1
   1.2
   TCO2
   21
   24
   24
   Glucose
   [**Telephone/Fax (3) 11262**]08
   Other labs: PT / PTT / INR:11.9/26.1/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:59/87, Alk Phos / T Bili:603/6.8, Amylase
   / Lipase:/16, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:1.8 g/dL, LDH:323 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   1. Hypotension/sepsis: He continues to require increasing amounts of
   fluids to keep BPs up, resulting in a significantly positive balance.
   He is DNR and off pressors.  On stress dose-steroids.  Will continue
   treatment with Abx.
   -Continue methylprednisolone
   -LR boluses as needed to keep MAP>60 / SBP>90 (use LR given decreased
   bicarb& hyper-Cl and decreased anion gap).
   -Continue Ambisome, Linezolid and Meropenem given continued
   hypothermia, hypotension.
   -Continue treatment for Toxoplasmosis with Pyrimethium, Leucovorin,
   Clindamycin.
   -F/u ID recs, BMT recs.
   -Continue Haldol dose to 1mg q6hours and start low dose Zydis in order
   to attempt to wean off Propofol given hypotension
   -F/u pending microbiologic studies
   - IP c/s to evaluate patient for possible trach placement (likely not
   rec
d as pt high risk but needs eval)
   .
   2. Altered mental status: MRI shows stable subdurals with no acute
   infarcts. There was a question of expanding subdural hygromas. EEG
   showed no seizure like activity, just diffuse global encephalopathy.
   Neuro has signed off. Neurosurgery does not recommend any surgical
   intervention as patient has high operative risk (and is DNR).
   .
   3. Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50.
   -Continue to trend Hct and Plt closely and transfuse for above goals
   .
   4. CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT recs
   5. [**Date Range **]
 Now with new [**Date Range 7452**].  Has had GVHD and stress ulcer in
   past, consult GI for possible EGD.
   - Trend Hct Q8H
   - Transfuse pRBCs for Hct < 25
   - HCT responded appropriately after xfusion 1u PRBC.
   6. Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome vs
   thrombocytopenia .  Improved with irrigation, but continues to be
   hematuric
   - continue CBI.
   ICU Care
   Nutrition: hold tube fees in the setting of [**Last Name (LF) 7452**], [**First Name3 (LF) **] need access
   for PPN vs TPN?
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   A-line
   Prophylaxis:
   DVT: None
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: with patient and wife
   [**Name (NI) 36**] status: DNR (no pressors, no compression) per most recent
   discussion with HCP
   Dispo : To ICU

2124-09-22 12:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Continues with melena.
   No change in neurological status.
   Neurosurgery Consultation --> no procedure recommended at this time.
   EEG without seizure focus.
   History obtained from Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-21**] 10:05 PM
   Clindamycin - [**2124-9-22**] 06:51 AM
   Linezolid - [**2124-9-22**] 08:00 AM
   Meropenem - [**2124-9-22**] 09:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2124-9-22**] 02:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss,
   Hypothermia
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-22**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.3
C (95.5
   HR: 89 (77 - 94) bpm
   BP: 107/73(87) {74/48(62) - 111/78(90)} mmHg
   RR: 11 (0 - 13) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
           Total In:
                                                                  2,737 mL
                                                                  1,425 mL
   PO:
           TF:
   IVF:
                                                                  2,299 mL
                                                                  1,035 mL
   Blood products:
                                                                    388 mL
                                                                    350 mL
   Total out:
                                                                  1,950 mL
                                                                  2,200 mL
   Urine:
                                                                  1,500 mL
                                                                  2,200 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                    787 mL
                                                                   -775 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/45/125/22/-3
   Ve: 4.1 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, anasarca
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   91 K/uL
   108 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.8 mEq/L
   59 mg/dL
   102 mEq/L
   132 mEq/L
   28.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2124-9-21**]  12:00 AM
                             [**2124-9-21**]  03:46 AM
                             [**2124-9-21**]  04:24 AM
                             [**2124-9-21**]  06:00 AM
                             [**2124-9-21**]  11:56 AM
                             [**2124-9-21**]  05:26 PM
                             [**2124-9-21**]  05:57 PM
                             [**2124-9-21**]  10:43 PM
                             [**2124-9-22**]  03:53 AM
                             [**2124-9-22**]  04:24 AM
   WBC
   3.7
   4.1
   3.8
   3.0
   4.1
   Hct
   26.4
   26.0
   24.5
   23.3
   28.1
   Plt
   44
   118
   96
   97
   91
   Cr
   1.1
   1.2
   TCO2
   21
   24
   24
   Glucose
   [**Telephone/Fax (3) 11262**]08
   Other labs: PT / PTT / INR:11.9/26.1/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:59/87, Alk Phos / T Bili:603/6.8, Amylase
   / Lipase:/16, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:1.8 g/dL, LDH:323 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   57 yom CLL (large cell transformation) --> s/p allo SCT in [**2-24**], now
   returns to MICU following PEA arrest.
   RESPIRATORY FAILURE -- Reintubated in context of PEA arrest.  Plan
   continue mechanical ventilation.  Suspect poor candidate to work
   towards repeat extubation trial in setting of markedly abnormal mental
   status.  Would assess for tracheostomy, and discuss options with wife.
   PULMONARY INFILTRATES -- Completed treatment for aspiration pneumonia.
   Would encourage discontinue select antimicrobials.
   PEA ARREST -- Repeated.  Unclear precipitant, although concern remains
   aspiration with hypoxemia, acidosis, hypovolemia.  Improved.  No
   further episodes.
   BRADYCARDIA
 Possible vagal etiology.  Monitor HR.
   ALTERED MENTAL STATUS -- Attributed to medications, viremia, possible
   hepatic encephalopathy.  Likely contribution of SDH --> no evidence for
   progression of SDH.   Current head MRI demonstrates bilateral frontal
   hygromas, perhaps expanding --> Limit psychotropic meds if possible.
   Unclear whether SDH drainage viable option (in context of severe
   thrombocytopenia).  Monitor.  Elevated NH3.  Consider EEG (assess for
   status epilepticus) and head MRI (assess for anoxic brain injury) to
   further evaluate neurological status.  Neurosurgical consultation
   intervention at this time.
   FACIAL TWITCHING -- Transient, and resolved.  Unclear etiology, but
   concerns include toxic-metabolic derrangement, or seizure.  [**Month (only) 51**] be
   attributed to Propofol.  EEG without evidence for seizure focus.
    ELEVATED NH3
 desire to treat with lactulose, but hold while
   evaluating for GI bleed.  Monitor NH3, LFTs.
   ELEVATED b-GLUCAN -- concern for ongoing fungal infection.  Continue
   antifungals.  Await g-glactomannan.
   GI BLEED -- Recurrent problem, may represent passing of oral bleeding,
   but at risk for PUD, GVHD, or other Gi pathology (at risk while NPO and
   on steroids).  Monitor.  If melena continues, and Hct continues to
   fall, consider GI consultation.
   ANEMIA -- attributed to immunosuppression, and recent blood loss.
   Monitor Hct, transfuse <25.
   THROMBOCYTOPENIA -- attributed to immunosuppression/infection/GVHD.
   Will transfuse for plts <50.
   FLUIDS -- total body volume hyperexpanded, but intravascular marginal.
   Desure net negative fluid balance.  Monitor I/O.
   HEMATURIA -- attributed to foley catheter trauma in setting of
   thrombocytopenia.  Ambisone may precipitate cystitis and bleeding.
   Improved with irrigation.
   A-FIB -- now back in NSR, off amioderone.  Monitor HR.
   CLL --> s/p BMTx, c/b GVHD:   Continue immunosuppressant and
   prophylactic regimens.  Continue cidofovir.
   HTN -- hold anti-HTN meds.  Monitor BP.
   NUTRITIONAL SUPPORT
 desire resuming TF via OGT.  Consider PEG if
   trach is placed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   Arterial Line - [**2124-9-16**] 01:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   Telephone conversation with wife.  Updated medical condition, answered
   all questions.  Recurrent GI bleed, with no plans for GI endoscopy.  No
   plans for Neurosurgical intervention.  Unable to provide nutrition via
   GI tract during active GI bleed.  Insufficient central access for
   TPN.   Wife understands current state, and desire to determine
   direction of care.  In the absence of obvious improvement in mental
   status, and the failed extubation attempt last week, at this time
   decision is to either proceed to tracheotomy tube (will require
   surgical placement) and PEG if patient would accept longterm mechanical
   ventilation, or to change focus of care to comfort.  Wife will consider
   options over weekend and will meet to discuss final decision on
   Monday.  Plan to consult Thoracic Surgery over weekend to assess for
   trach/PEG, as wife would like to speak to surgeon prior to making final
   decision.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2124-9-22**] 20:00 ------

2124-09-24 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Dr. [**First Name (STitle) **] had a discussion with Ms. [**Known lastname 9130**] from which it was clear
   that she is moving toward CMO status for the patient.  She did not want
   a tracheostomy, noting that it will not correct the underlying
   problems.
   -The importance of keeping the pt. comfortable was stressed in the
   meantime.  Propofol was re-started.
   -The patient noted to have worsening hematuria and Ambisome dose was
   decreased to 250 mg IV Q24hours.
   -Methylprednisolone dose was changed from daily to [**Hospital1 **] and the Blood
   cultures x 2 performed.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2124-9-23**] 10:11 PM
   Meropenem - [**2124-9-24**] 01:50 AM
   Clindamycin - [**2124-9-24**] 05:28 AM
   Linezolid - [**2124-9-24**] 05:55 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-23**] 08:00 PM
   Haloperidol (Haldol) - [**2124-9-24**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-24**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.1
   HR: 106 (74 - 115) bpm
   BP: 108/70(84) {76/41(53) - 140/82(104)} mmHg
   RR: 15 (1 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                    880 mL
                                                                    802 mL
   PO:
             TF:
   IVF:
                                                                    820 mL
                                                                    802 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                      0 mL
   Urine:
                                                                  2,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,595 mL
                                                                    802 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 571 (571 - 775) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 12 L/min
   Physical Examination
   General Appearance: No acute distress.  Intubated, sedated, no
   responsive to verbal commands.
   Eyes / Conjunctiva: Icteric, edematous sclerae.  Pupils equal 2mm,
   reactive to light.
   Cardiovascular: RRR. Normal s1, s2. No M/G/R.
   Respiratory / Chest: CTAB.
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: 3+ bilateral lower extremity edema. Warm and
   well-perfused.  Anasarca.
   GU: Foley catheter in place with CBI. Pink urine in bag.
   Labs / Radiology
   49 K/uL
   9.0 g/dL
   99 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.3 mEq/L
   57 mg/dL
   98 mEq/L
   130 mEq/L
   24.2 %
   4.5 K/uL
        [image002.jpg]
                             [**2124-9-21**]  05:26 PM
                             [**2124-9-21**]  05:57 PM
                             [**2124-9-21**]  10:43 PM
                             [**2124-9-22**]  03:53 AM
                             [**2124-9-22**]  04:24 AM
                             [**2124-9-22**]  01:12 PM
                             [**2124-9-22**]  07:05 PM
                             [**2124-9-23**]  04:27 AM
                             [**2124-9-23**]  11:43 AM
                             [**2124-9-24**]  04:31 AM
   WBC
   3.8
   3.0
   4.1
   4.4
   4.5
   Hct
   24.5
   23.3
   28.1
   25.7
   26.0
   27.3
   25.0
   24.2
   Plt
   96
   97
   91
   64
   49
   Cr
   1.2
   1.3
   1.4
   TCO2
   24
   24
   Glucose
   108
   80
   99
   Other labs: PT / PTT / INR:12.3/28.5/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:53/85, Alk Phos / T Bili:603/6.8, Amylase
   / Lipase:/16, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:1.8 g/dL, LDH:323 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   1. Hypotension/sepsis: He continues to require increasing amounts of
   fluids to keep BPs up, resulting in a significantly positive balance.
   He is DNR and off pressors.  On stress dose-steroids.  Will continue
   treatment with Abx.
   -Continue methylprednisolone
   -LR boluses as needed to keep MAP>60 / SBP>90 (use LR given decreased
   bicarb& hyper-Cl and decreased anion gap).
   -Continue Ambisome, Linezolid and Meropenem given continued
   hypothermia, hypotension.
   -Continue treatment for Toxoplasmosis with Pyrimethium, Leucovorin,
   Clindamycin.
   -F/u ID recs, BMT recs.
   -Continue Haldol dose to 1mg q6hours and start low dose Zydis in order
   to attempt to wean off Propofol given hypotension
   -F/u pending microbiologic studies
   - IP c/s to evaluate patient for possible trach placement (likely not
   rec
d as pt high risk but needs eval)
   .
   2. Altered mental status: MRI shows stable subdurals with no acute
   infarcts. There was a question of expanding subdural hygromas. EEG
   showed no seizure like activity, just diffuse global encephalopathy.
   Neuro has signed off. Neurosurgery does not recommend any surgical
   intervention as patient has high operative risk (and is DNR).
   .
   3. Pancytopenia: Most likely due to immunosuppression/infection/GVHD.
   HCT goal >25, plt goal > 50.
   -Continue to trend Hct and Plt closely and transfuse for above goals
   .
   4. CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT recs
   5. [**Date Range **]
 Now with new [**Date Range 7452**].  Has had GVHD and stress ulcer in
   past, consult GI for possible EGD.
   - Trend Hct Q8H
   - Transfuse pRBCs for Hct < 25
   - HCT responded appropriately after xfusion 1u PRBC.
   6. Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome vs
   thrombocytopenia .  Improved with irrigation, but continues to be
   hematuric
   - continue CBI.
   ICU Care
   Nutrition: hold tube fees in the setting of [**Last Name (LF) 7452**], [**First Name3 (LF) **] need access
   for PPN vs TPN?
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   A-line
   Prophylaxis:
   DVT: None
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: with patient and wife
   [**Name (NI) 36**] status: DNR (no pressors, no compression) per most recent
   discussion with HCP
   Dispo : To ICU

2124-09-25 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Gave 1 units PRBC and 1 unit platelets in a.m.
   -Hct was 18.4 at around 8 p.m. (had only gotten 1 unit PRBC by that
   point) --> called wife to come in --> wife came in with daughter
   -discussed with Dr. [**Last Name (STitle) 21**] --> plan to support with blood transfusions
   until family got in
   -Transfused 2 more units PRBC overnight, with Hct increase to 25.5
   -Became hypotensive to MAP in 40 at around 5 a.m. --> treated with
   fluids
   -[**Name (NI) **] sister plans to come in to see patient
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2124-9-24**] 07:39 PM
   Ambisome - [**2124-9-25**] 12:54 AM
   Clindamycin - [**2124-9-25**] 01:00 AM
   Meropenem - [**2124-9-25**] 02:12 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-24**] 09:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-25**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 88 (79 - 108) bpm
   BP: 79/45(56) {73/43(52) - 106/64(78)} mmHg
   RR: 17 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
           Total In:
                                                                  4,756 mL
                                                                  1,812 mL
   PO:
           TF:
   IVF:
                                                                  3,897 mL
                                                                  1,486 mL
   Blood products:
                                                                    859 mL
                                                                    327 mL
   Total out:
                                                                  1,575 mL
                                                                      0 mL
   Urine:
                                                                  1,575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,181 mL
                                                                  1,812 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 29 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: ///20/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: No acute distress.  Intubated, sedated, no
   responsive to verbal commands.
   Eyes / Conjunctiva: Icteric, edematous sclerae.  Pupils equal 2mm,
   reactive to light.
   Cardiovascular: RRR. Normal s1, s2. No M/G/R.
   Respiratory / Chest: CTAB.
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: 3+ bilateral lower extremity edema. Warm and
   well-perfused.  Anasarca.
   GU: Foley catheter in place with CBI. Pink urine in bag.
   Labs / Radiology
   62 K/uL
   9.9 g/dL
   121 mg/dL
   1.5 mg/dL
   20 mEq/L
   3.4 mEq/L
   56 mg/dL
   107 mEq/L
   130 mEq/L
   25.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2124-9-22**]  04:24 AM
                             [**2124-9-22**]  01:12 PM
                             [**2124-9-22**]  07:05 PM
                             [**2124-9-23**]  04:27 AM
                             [**2124-9-23**]  11:43 AM
                             [**2124-9-24**]  04:31 AM
                             [**2124-9-24**]  06:30 PM
                             [**2124-9-24**]  08:25 PM
                             [**2124-9-25**]  01:03 AM
                             [**2124-9-25**]  04:49 AM
   WBC
   4.4
   4.5
   3.6
   4.5
   4.8
   Hct
   25.7
   26.0
   27.3
   25.0
   24.2
   21.2
   18.4
   26.5
   25.5
   Plt
   64
   49
   88
   76
   74
   62
   Cr
   1.3
   1.4
   1.5
   TCO2
   24
   Glucose
   80
   99
   121
   Other labs: PT / PTT / INR:12.3/31.3/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:40/67, Alk Phos / T Bili:406/8.4, Amylase
   / Lipase:/16, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:1.8 g/dL, LDH:344 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.
   1. Hypotension: He continues to require increasing amounts of fluids to
   keep BPs up, resulting in a significantly positive balance.  He is DNR
   and off pressors.  DDx includes distributive (eg. septic) shock vs.
   hypovolemic shock ([**12-20**] bleeding).  On stress-dosed steroids
   -Give fluids and PRBCs as needed to maintain MAP>60/SBP>90, Hct>25.
   -Continue methylprednisolone
   -Continue Ambisome, Linezolid and Meropenem
   -Continue treatment for Toxoplasmosis with Pyrimethium, Leucovorin,
   Clindamycin.
   -F/u ID recs, BMT recs
   -F/u pending microbiologic studies
   .
   2. Altered mental status: MRI shows stable subdurals with no acute
   infarcts. There was a question of expanding subdural hygromas. EEG
   showed no seizure like activity, just diffuse global encephalopathy.
   Neuro has signed off. Neurosurgery does not recommend any surgical
   intervention as patient has high operative risk (and is DNR).
   -Restarted propofol to make patient more comfortable.
   -Consider d/c
ing Haldol now that patient is back on propofol
   .
   3. Anemia: Hct downtrending, concerning to bleeding (patient likely has
   both GI and GU bleeding).
   -transfuse 1 units PRBCs (goal >25)
   -trend Hct
   .
   4. Thrombocytopenia: Most likely due to
   immunosuppression/infection/GVHD. Plt goal > 50.
   -transfuse 1 bag of plateletes this a.m., continue to trend Plt count
   .
   5. CLL with BMT c/b GVHD:
   - Continue immunosuppressant and prophylactic regimens
   - appreciate BMT recs
   6. [**Month/Day (2) **]
 Now with [**Month/Day (2) 7452**].  Has had GVHD and stress ulcer in past.
   - Trend Hct
   - f/u GI recs
   - Transfuse pRBCs for Hct < 25
   7. Hematuria
 Etiology is BK cystitis vs. secondary to Ambisome.
   - continue CBI.
   ICU Care
   Nutrition: hold tube feeds in the setting of [**Last Name (LF) 7452**], [**First Name3 (LF) **] need access
   for PPN vs TPN?
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   A-line
   Prophylaxis:
   DVT: None
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: with patient and wife
   [**Name (NI) 36**] status: DNR (no pressors, no compression) per most recent
   discussion with HCP
   Dispo : To ICU

2124-09-26 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CMO no more AM labs
   - off all meds that [**Last Name (un) **] comfort only
   - on prop, fentanyl, started morphine gtt
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2124-9-24**] 07:39 PM
   Ambisome - [**2124-9-25**] 12:54 AM
   Clindamycin - [**2124-9-25**] 01:00 AM
   Meropenem - [**2124-9-25**] 08:38 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-26**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.5
   HR: 67 (64 - 100) bpm
   BP: 52/32(38) {50/28(34) - 95/61(72)} mmHg
   RR: 14 (0 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 125 kg
             Total In:
                                                                  2,480 mL
                                                                    219 mL
   PO:
             TF:
   IVF:
                                                                  2,153 mL
                                                                    219 mL
   Blood products:
                                                                    327 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,480 mL
                                                                    219 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: No acute distress.  Intubated, sedated, no
   responsive to verbal commands.
   Eyes / Conjunctiva: Icteric, edematous sclerae.  Pupils equal 2mm,
   reactive to light.
   Cardiovascular: RRR. Normal s1, s2. No M/G/R.
   Respiratory / Chest: CTAB.
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: 3+ bilateral lower extremity edema. Warm and
   well-perfused.  Anasarca.
   GU: Foley catheter in place with CBI. Pink urine in bag.
   Labs / Radiology
   62 K/uL
   9.9 g/dL
   121 mg/dL
   1.5 mg/dL
   20 mEq/L
   3.4 mEq/L
   56 mg/dL
   107 mEq/L
   130 mEq/L
   25.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2124-9-22**]  04:24 AM
                             [**2124-9-22**]  01:12 PM
                             [**2124-9-22**]  07:05 PM
                             [**2124-9-23**]  04:27 AM
                             [**2124-9-23**]  11:43 AM
                             [**2124-9-24**]  04:31 AM
                             [**2124-9-24**]  06:30 PM
                             [**2124-9-24**]  08:25 PM
                             [**2124-9-25**]  01:03 AM
                             [**2124-9-25**]  04:49 AM
   WBC
   4.4
   4.5
   3.6
   4.5
   4.8
   Hct
   25.7
   26.0
   27.3
   25.0
   24.2
   21.2
   18.4
   26.5
   25.5
   Plt
   64
   49
   88
   76
   74
   62
   Cr
   1.3
   1.4
   1.5
   TCO2
   24
   Glucose
   80
   99
   121
   Other labs: PT / PTT / INR:12.3/31.3/1.0, CK / CKMB /
   Troponin-T:/4/0.13, ALT / AST:40/67, Alk Phos / T Bili:406/8.4, Amylase
   / Lipase:/16, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:404 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:1.8 g/dL, LDH:344 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   57-year-old gentleman with CLL and [**Doctor Last Name **]
s transformation (aggressive
   large B-cell lymphoma)  s/p allo SCT in [**2-24**] w/ AMS and hypothermia in
   the setting of  BK viremia, transferred to MICU after PEA arrest on
   [**9-10**],  with apical infiltrates on CXR (as of [**9-11**]) concerning for
   possible aspiration PNA and pancytopenia.   Family decided for no
   further escalation of care at this point, including no antimicrobials
   and no
   1. Hypotension:
   -IVF as needed for hypotension
   -No further blood products
   -No laboratory or imaging studies
   -Fentalyl,. Morphine for pain control
   -Propafol for sedation
   -Continue intubation and mechanical ventilation at this time
   -Continue all comfort care meds, discontinue all other medications
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-10**] 07:31 AM
   A-line
   Prophylaxis:
   DVT: None
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with patient and wife
   [**Name (NI) 36**] status: DNR (no pressors, no compression) per most recent
   discussion with HCP
   Dispo : ICU